2148-10-31 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
   Denies CP/pressure, SOB, abdominal pain, A&O x3, no pain. Feels
   comfortable. Feels that he is breathing at his baseline.
 NASAL SWAB - At [**2148-10-30**] 08:00 PM
   MRSA screen
   CXR [**10-30**]:
   In comparison with the earlier study of this date, there is a
   little change. Again, no convincing evidence of substantial vascular
   congestion. Huge enlargement of the cardiac silhouette and the
   discordancy
   raises the possibility of pericardial effusion or cardiomyopathy.
   Opacification at the left base could well represent the combination of
   pleural
   fluid and atelectasis, with supervening pneumonia certainly not
   excluded.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,300 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-31**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 151 (102 - 151) bpm
   BP: 97/69(64) {67/48(57) - 112/79(83)} mmHg
   RR: 30 (16 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
             Total In:
                                                                  1,292 mL
                                                                    660 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,112 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    186 mL
   Urine:
                                                                    160 mL
                                                                    186 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    432 mL
                                                                    474 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.50/39/99.[**Numeric Identifier 126**]/26/7
   Physical Examination
   GEN: NAD, resting in bed, visibly working hard with chest/abdomen to
   breathe fast.
   SBP with Doppler: 72 on right, 82 on left.
   CV:  Tachycardic, irregular.
   PULM: CTAB except for a few rales at right base.
   ABD: soft, nt, nd.
   RECTAL: guiac negative last night; stools guiac negative this morning
   EXTR: 2+ pedal edema b/l, unchanged, no TTP; Right arm with gouty
   bulge, non-ttp
   Labs / Radiology
   179 K/uL
   9.9 g/dL
   231 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.0 mEq/L
   51 mg/dL
   96 mEq/L
   136 mEq/L
   28.6 %
   4.8 K/uL
        [image002.jpg]
                            [**2148-10-30**]  05:13 PM
                            [**2148-10-31**]  01:05 AM
   WBC
   4.8
   Hct
   28.6
   Plt
   179
   Cr
   1.3
   TropT
   0.06
   TCO2
   31
   Glucose
   231
   Other labs: PT / PTT / INR:14.7/70.1/1.3, CK / CKMB /
   Troponin-T:230/7/0.06, Lactic Acid:2.1 mmol/L, Ca++:9.5 mg/dL, Mg++:2.7
   mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV.
   .
   # Atrial fibrillation with RVR: Believe this has been chronic, given
   dilated LV and decreased EF on echo; believed due to dilation from
   novel cardiomyopathy. Consider ischemic versus non-ischemic causes
   (diabetes, hypertension, tachycardia, metabolic, hemochromatosis,
   viral). S/p diltiazem IV, metoprolol IV, amiodarone in the ED with
   continued RVR and mild hypotension. Digoxin loaded overnight for rate
   control. HR
s in 140s-160s and SBP
s in 80s-90s overnight;
   asymptomatic. RR in 20s, believed due to tachycardia/hypotension
   picture.
   - plan for TEE cardioversion this morning; call anesthesia and TEE
   - continue digoxin 0.125mg po now that load complete
   - closely monitor HR & BP & RR
   - CHADS score calculated to be 2 (hypertension and diabetes), warrants
   anticoagulation. continue IV heparin for bridge to coumadin
   - if rate control is ineffective or patient becomes unstable, will
   consider, TEE/cardioversion emergently followed by heparin gtt bridge
   to warfarin
   - f/u full set of LFT
s, LDH, lactate, thiamine
   - f/u CE
s to evaluate for any ischemia
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV. Unclear
   if this is a primary problem, possibly viral cardiomyopathy, secondary
   to hypertension, diabetes, metabolic disorder, or secondary to a.fib
   with RVR for unknown period of time, i.e. tachycardia-induced.
   -rate control as above
   -volume-overloaded, so diuresis with 40mg IV lasix now
   -monitor I
s & O
   -ACE/BB once BP stabilizes
   .
   # HTN: Blood pressures running low secondary to rapid ventricular rate,
   poor diastolic filling, many nodal agents, and low cardiac output.
   Given gentle 250cc NS boluses o/n.
   - monitor pressures
   - hold antihypertensive medication for now (HCTZ 50mg PO daily,
   verapamil 180mg ST PO daily)
   - lasix 40mg IV once for diuresis now; feel volume-overload issue is
   greater than hypotension issue presently
   .
   # Anemia: Hct stable but approximately 10 points below baseline. High
   ferritin.
   - follow Hct [**Hospital1 **]
   - f/u iron studies
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   - Continue simvastatin 80mg PO daily
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.
   - continue insulin sliding scale
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - can continue allopurinol 600mg PO daily; monitor renal function
   .
   # FEN: NPO pending cardioversion today
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:  Heparin drip
   .
   # CODE:  full
   .
   # DISPO:  CCU for now
   ICU Care
   Lines:
   18 Gauge - [**2148-10-30**] 05:44 PM
   20 Gauge - [**2148-10-30**] 05:45 PM
   ------ Protected Section ------
   CCU ATTENDING DAILY PROGRESS NOTE
   I have reviewed the comprehensive daily progress note by Dr. [**Last Name (STitle) 10453**]
   today and I agree with the history, physical examination, assessment
   and plan.  I was present during the physical examination and concur
   with its findings.
   Addendum to the History:  Per Dr. [**Last Name (STitle) 10453**]
s note.  Also he has no
   complains, he is clearly breathless and working to breath.
   Addendum to Physical Examination:  Per Dr. [**Last Name (STitle) 10453**]
s Note.  He is
   tachypneic at rest.  He has 3+ pedal edema.
   Medical Decision Making.  Mr. [**Known lastname 2333**] is a 65 year old man who was
   admitted for treatment of a new onset cardiomyopathy, cough and
   weakness.  He was given 2.5 L volume for resuscitation for hypotension
   and developed atrial fibrillation with a rapid ventricular response
   (130-150).  He has been given multiple agents (metoprolol
   hypotension; diltiazen
 hypotension) without success but has now
   tolerated amiodarone 150 mg IV x 2 and an IV amiodarone load (2 gram
   over 24 hours).
   We have begun vigorous diuresis and he has responded nicely (>200-300
   cc per hour).  A total of three attempts at DC cardioversion have
   resulting in transient sinus rhythm but reversion to atrial
   fibrillation with a rapid response.
   The total time for this visit was 40 minutes and over 50% of the time
   was spent coordinating care and discussing case with the patient and
   family.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2148-10-31**] 16:28 ------

2148-11-02 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2148-11-1**] 10:00 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2148-11-1**] 02:40 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2148-11-1**] 02:52 PM
 ARTERIAL LINE - START [**2148-11-1**] 10:15 PM
   -LE doppler negative
   -pt cardioverted x3 without success.  Given additional bolus of 150 of
   amiodarone and continued on amiodarone gtt.  Per EP recs, are aiming
   for [**3-20**] gram load of amio.  If we continue at current rate, pt will
   have 3520 mg by 11 AM on [**11-2**].
   -Esmolol gtt started per EP recs, continued for approx 2 hrs then dc'd
   because pressures could not tolerate.
   -pt given metop IVx2, with some improvement in HR
   -LFTs pending given initiation of amiodarone therapy
   -pt started on glargine for optimal insulin control.
   -blood smear significant for some target and tear drop lesions.
   [**10-31**]
   -Back in a fib with RVR ~1hr after cardioversion
   -Loaded with another 150mg bolus and cardioverted
   -Diuresing -200-300cc/hr
   -a line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Heparin Sodium - 1,950 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2148-11-1**] 01:30 PM
   Propofol - [**2148-11-1**] 02:37 PM
   Metoprolol - [**2148-11-1**] 04:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-2**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.3
   HR: 129 (102 - 155) bpm
   BP: 93/71(78) {64/51(56) - 93/71(78)} mmHg
   RR: 32 (23 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 74 Inch
             Total In:
                                                                  1,940 mL
                                                                    342 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,640 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                    660 mL
   Urine:
                                                                  5,500 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,560 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.54/38/113/31/9
   Physical Examination
   GEN: NAD, resting in bed, visibly working hard with chest/abdomen to
   breathe fast.
   SBP with Doppler: 72 on right, 82 on left.
   CV:  Tachycardic, irregular.
   PULM: CTAB.
   ABD: soft, nt, nd.
   RECTAL: guiac negative last night; stools guiac negative this morning
   EXTR: 2+edema to the knees L>R.  L colder than right.
   Labs / Radiology
   152 K/uL
   10.1 g/dL
   196 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.2 mEq/L
   41 mg/dL
   98 mEq/L
   142 mEq/L
   30.0 %
   7.0 K/uL
        [image002.jpg]
                            [**2148-10-30**]  05:13 PM
                            [**2148-10-31**]  01:05 AM
                            [**2148-10-31**]  06:49 AM
                            [**2148-10-31**]  11:02 PM
                            [**2148-11-1**]  06:46 AM
                            [**2148-11-1**]  04:57 PM
                            [**2148-11-1**]  10:46 PM
                            [**2148-11-2**]  04:00 AM
   WBC
   4.8
   6.2
   7.0
   Hct
   28.6
   28.3
   27.5
   29.4
   30.0
   Plt
   179
   173
   152
   Cr
   1.3
   1.1
   1.0
   1.0
   1.1
   TropT
   0.06
   0.06
   TCO2
   31
   34
   Glucose
   [**Telephone/Fax (3) 10794**]
   Other labs: PT / PTT / INR:16.3/115.5/1.4, CK / CKMB /
   Troponin-T:349/7/0.06, ALT / AST:60/77, Alk Phos / T Bili:178/0.8,
   Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:4414 IU/L, Ca++:9.5
   mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x2, amio
   gtt.
   .
   # Atrial fibrillation with RVR: Believe this has been chronic, given
   dilated LV and decreased EF on echo; believed due to dilation from
   novel cardiomyopathy. Consider ischemic versus non-ischemic causes
   (diabetes, hypertension, tachycardia, metabolic, hemochromatosis,
   viral). S/p diltiazem IV, metoprolol IV, amiodarone in the ED with
   continued RVR and mild hypotension. Digoxin loaded overnight for rate
   control. HR
s in 140s-160s and SBP
s in 80s-90s overnight;
   asymptomatic. RR in 20s, believed due to tachycardia/hypotension
   picture.
   - continue digoxin 0.125mg po now that load complete, continue IV
   Amiodarone gtt
   - closely monitor HR & BP & RR
   - CHADS score calculated to be 2 (hypertension and diabetes), warrants
   anticoagulation. continue IV heparin for bridge to coumadin
   - if rate control is ineffective or patient becomes unstable, will
   consider cardioversion again
   - f/u CE
s to evaluate for any ischemia
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV. Unclear
   if this is a primary problem, possibly viral cardiomyopathy, secondary
   to hypertension, diabetes, metabolic disorder, or secondary to a.fib
   with RVR for unknown period of time, i.e. tachycardia-induced.
   -rate control as above
   -volume-overloaded, so diuresis with 40mg IV lasix now
   -monitor I
s & O
   -ACE/BB once BP stabilizes
   .
   # HTN: Blood pressures running low secondary to rapid ventricular rate,
   poor diastolic filling, many nodal agents, and low cardiac output.
   Given gentle 250cc NS boluses o/n.
   - monitor pressures
   - hold antihypertensive medication for now (HCTZ 50mg PO daily,
   verapamil 180mg ST PO daily)
   - lasix 40mg IV once for diuresis now; feel volume-overload issue is
   greater than hypotension issue presently
   .
   # LE edema: L>R today, whereas edema had been equal in the past.  Will
   obtain LE Doppler to r/o DVT.
   .
   # Anemia: Hct stable but approximately 10 points below baseline.
   Concerning for anemia of chronic disease.
   - follow Hct [**Hospital1 **]
   - f/u blood smear
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   - Continue simvastatin 80mg PO daily
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.
   - continue insulin sliding scale, will start long-acting insulin today
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - can continue allopurinol 600mg PO daily; monitor renal function
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-10-30**] 05:44 PM
   20 Gauge - [**2148-11-1**] 11:56 AM
   Arterial Line - [**2148-11-1**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-03 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT torso obtained [**11-2**]
 results below
   - Patient spontaneously converted to sinus yesterday on Amio drip
   - Denies cx pain, SOB
   - Confused this morning, A&Ox1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Amiodarone - 1 mg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-3**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 89 (71 - 130) bpm
   BP: 129/73(89) {91/64(73) - 129/77(91)} mmHg
   RR: 29 (24 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 125.4 kg (admission): 129.5 kg
   Height: 74 Inch
             Total In:
                                                                  1,838 mL
                                                                    463 mL
   PO:
                                                                    660 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  1,178 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                  1,970 mL
   Urine:
                                                                  4,210 mL
                                                                  1,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,372 mL
                                                                 -1,507 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.53/43/74/32/11
   PaO2 / FiO2: 148
   Physical Examination
   GEN: NAD, resting in bed, breathing with mild effort, improved since
   prior
   CV:  RRR, no m/g/r.
   PULM: CTAB, poor air movement, minimal rales at bases
   ABD: Soft, NT/ND.
   EXTR: 2+edema to the knees L>R.  Improved since admission.  Large 4cm L
   elbow tophus.
   NEURO:  A&Ox1 (aware of hospital but unaware of name of hospital or
   city, aware of year but not of month or day), strength 5/5 RUE, [**4-21**] to
   L wrist and L arm flexion/extension, [**5-21**] RLE, [**4-21**] LLE to
   flexion/extension.  Sensation intact to light touch (though pt
   unreliable [**2-19**] minimization of sxs).  CN II-XII grossly intact despite
   slight asymmetry of face.
   LYMPH NODES: large, 5 cm node in R axilla.  No other nodes palpated.
   Labs / Radiology
   139 K/uL
   10.3 g/dL
   186 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.8 mEq/L
   32 mg/dL
   99 mEq/L
   144 mEq/L
   30.8 %
   8.1 K/uL
        [image002.jpg]
                            [**2148-10-31**]  01:05 AM
                            [**2148-10-31**]  06:49 AM
                            [**2148-10-31**]  11:02 PM
                            [**2148-11-1**]  06:46 AM
                            [**2148-11-1**]  04:57 PM
                            [**2148-11-1**]  10:46 PM
                            [**2148-11-2**]  04:00 AM
                            [**2148-11-2**]  04:38 PM
                            [**2148-11-3**]  02:48 AM
                            [**2148-11-3**]  04:16 AM
   WBC
   4.8
   6.2
   7.0
   7.5
   8.1
   Hct
   28.6
   28.3
   27.5
   29.4
   30.0
   29.3
   30.8
   Plt
   179
   173
   152
   145
   139
   Cr
   1.3
   1.1
   1.0
   1.0
   1.1
   1.0
   0.9
   TropT
   0.06
   0.06
   TCO2
   34
   37
   Glucose
   [**Telephone/Fax (3) 10818**]86
   Other labs: PT / PTT / INR:15.2/84.6/1.3, CK / CKMB /
   Troponin-T:349/7/0.06, ALT / AST:60/77, Alk Phos / T Bili:178/0.8,
   Differential-Neuts:58.0 %, Band:3.0 %, Lymph:29.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:4414 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: CT Torso [**11-2**]
   1)Multiple subcutaneous nodules with larger necrotic masses in the
   right
   axilla and further nodules in the left perinephric region are highly
   suspicious for metastases, possible melanoma. Biopsy of the right
   axillary
   lymph node is recommended.
   2)Loculated large left pleural effusion with atelectasis in the left
   lung and
   small right pleural effusion.
   3)Moderately large pericardial effusion in the presence of moderate
   cardiomegaly. Subcentimeter hypodensities in the liver and lower pole
   of the left kidney could be cysts.
   Microbiology: BCx [**10-30**] pending
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x5, recent
   spontaneous conversion to sinus on Amio gtt.
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   diuresis.  Cardioversion x5 without success for more than 1 hour.
   Spontaneously converted to sinus rhythm yesterday on Amiodarone, back
   in A fib this morning after Amio drip was d/c
ed.  Re-initiated Amio
   drip with conversion to sinus subsequently.
   - Continue digoxin 0.125mg po now that load complete
   - Continue IV Amiodarone gtt at 1 mg/min, switched to 0.5mg/min now
   that pt converted to sinus on 1mg/min (total load of [**4-21**] g as of [**11-3**]
   AM)
   - Continue Heparin bridge, transition to Coumadin in the future once
   stable and pending decision re: procedures/biopsy.  CHADS score 2
   (hypertension and diabetes).
   -Continue Lasix diuresis to optimize pt staying in sinus
   - Esmolol IV 500mg boluses as needed and tolerated to control HR if in
   sinus
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly as pt has
   L-sided extremity and confusion this morning.
   - CT head w/ contrast
   - Consider MRI with gad in future for metastasis w/u once patient
   stable
   .
   # Elevated LDH/Likely malignancy: Initially concerning for ischemia in
   the context of afib with RVR, however given this degree of elevation
   and finding of R axillary lymphadenopathy, now concerned for
   malignancy.  CT torso consistent with melanoma vs. lymphoma.
   - Surgery consult for lymph node biopsy
   - Will notify Oncology though no tissue diagnosis yet
   - IP re: possible US guided thoracentesis of loculated large L pleural
   effusion
   - [**Hospital1 7**] tumor lysis labs
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Currently volume overloaded, on Lasix
   drip.
   - Continue diuresis with lasix gtt and boluses of 40 IV as needed to
   reach goal of negative 2-3 liters today
   - monitor I
s & O
   - ACE/BB once BP stabilizes
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE.  LE
   doppler negative.  Most likely [**2-19**] heart failure.
   - Arterial duplex to r/o cholesterol emboli vs. thromboembolic event
   .
   # HTN: Blood pressures running low secondary to rapid ventricular rate,
   poor diastolic filling, many nodal agents, and low cardiac output.
   .
   # Anemia: Hct stable, concerning for anemia of chronic disease.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   - Continue simvastatin 80mg PO daily
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.
   - Continue insulin sliding scale
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   ICU Care
   Nutrition: heart healthy diet
   Glycemic Control:  as above
   Lines:
   18 Gauge - [**2148-10-30**] 05:44 PM
   20 Gauge - [**2148-11-1**] 11:56 AM
   Arterial Line - [**2148-11-1**] 10:15 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments: with pt and family
   Code status: Full code
   Disposition: CCU care

2148-11-04 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 -Went from sinus to a fib when Amio drip changed to po this AM.
   Placed back on 1mg/min Amio drip, converted back to sinus. Changed to
   0.5mg/min and pt back in a fib, increased Amio back to 1mg/min.
   -Epistaxis yesterday. ENT consulted after persistent bleed despite
   pressure and ice unsuccessful.
   -Arterial duplex studies -> Monday
   -IP contact[**Name (NI) **] re: thoracentesis of effusion -> Monday
   -CT head obtained
   -Surgery paged re: LN biopsy given results of CT torso
   -Onc saw pt last night; recommend biopsy or FNA for tissue sample
   -Febrile to Tm 100.6, UA, UCx, BCx sent, CXR obtained, Vanc/Zosyn
   initiated this AM
   -Hypotensive this AM in 60's briefly, afebrile, still in a fib.  BP
   back in 80's with reverse trendelenberg.  EKG ?old downsloping ST in
   lateral leads.  Amio and Lasix both stopped.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-11-4**] 05:35 AM
   Infusions:
   Heparin Sodium - 1,550 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-4**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 115 (85 - 126) bpm
   BP: 87/53(62) {66/39(47) - 129/77(90)} mmHg
   RR: 32 (19 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 124.3 kg (admission): 129.5 kg
   Height: 74 Inch
             Total In:
                                                                  1,622 mL
                                                                    454 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,062 mL
                                                                    454 mL
   Blood products:
   Total out:
                                                                  3,767 mL
                                                                    545 mL
   Urine:
                                                                  3,767 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,145 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.47/51/253/33/12
   PaO2 / FiO2: 253
   Physical Examination
   GEN: Increased somnolence, mild-moderate respiratory effort, no acute
   distress
   CV:  Irregularly irregular at rapid rate, no m/g/r.
   PULM: CTAB anteriorly, poor air movement
   ABD: Soft, NT/ND.
   EXTR: 2+edema to the knees L>R.  Large 4cm L elbow tophus.
   NEURO:  A&Ox1 (oriented to self)
   LYMPH NODES: large, 5 cm node in R axilla.
   Labs / Radiology
   114 K/uL
   9.8 g/dL
   173 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.0 mEq/L
   38 mg/dL
   99 mEq/L
   144 mEq/L
   29.7 %
   8.2 K/uL
        [image002.jpg]
                            [**2148-11-1**]  04:57 PM
                            [**2148-11-1**]  10:46 PM
                            [**2148-11-2**]  04:00 AM
                            [**2148-11-2**]  04:38 PM
                            [**2148-11-3**]  02:48 AM
                            [**2148-11-3**]  04:16 AM
                            [**2148-11-3**]  06:11 PM
                            [**2148-11-3**]  07:15 PM
                            [**2148-11-4**]  03:06 AM
                            [**2148-11-4**]  03:14 AM
   WBC
   7.0
   7.5
   8.1
   8.2
   Hct
   30.0
   29.3
   30.8
   30.4
   29.7
   Plt
   152
   145
   139
   114
   Cr
   1.0
   1.1
   1.0
   0.9
   1.1
   1.1
   1.1
   TCO2
   34
   37
   38
   Glucose
   196
   186
   163
   173
   Other labs: PT / PTT / INR:16.2/98.1/1.4, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:60/77, Alk Phos / T Bili:178/0.8,
   Differential-Neuts:58.0 %, Band:3.0 %, Lymph:29.0 %, Mono:3.0 %,
   Eos:0.0 %, D-dimer:9918 ng/mL, Lactic Acid:1.7 mmol/L, Albumin:3.1
   g/dL, LDH:4720 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x5, recent
   spontaneous conversion to sinus on Amio gtt, back in a fib with RVR
   since [**11-3**].
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   diuresis.  Cardioversion x5 without success for more than 1 hour.
   Spontaneously converted to sinus rhythm yesterday on Amiodarone, back
   in A fib this morning after Amio drip was d/c
ed.  Re-initiated Amio
   drip with conversion to sinus subsequently, but since [**11-3**] back in a
   fib with RVR at rates 120
s.  Attempted 7^th cardioversion in-house
   this AM ([**11-3**]) without success.
   - Continue digoxin 0.125mg po now that load complete
   - Obtain digoxin level today
   - Hold Amiodarone;  Amiodarone gtt at 1 mg/min until this AM when
   d/c
ed due to hypotension
   - Initiate Amiodarone 400mg po bid
   - Lasix d/c
ed this AM [**2-19**] hypotension; patient significantly diuresed;
   I/O goal even today
   - Continue Heparin gtt, will hold briefly for procedures today for w/u
   of malignancy (CHADS score 2; hypertension and DM)
   .
   # Hypotension:  Likely [**2-19**] Afib with RVR and/or infection/sepsis.  Most
   likely source of infection PNA given L pleural effusion concerning for
   malignancy vs. empyema/PNA.  CEs flat, no acute EKG changes.
   - Contact IP re: tap of L pleural effusion today; send for flow
   cytometry and cytology
   - Continue Vanc/Zosyn;  ID approval needed for Vanc today
   - Cortisol level to assess whether steroids would help BP
   - f/u Bcx, Ucx
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.  CT head w/ contrast showed
   1cm dural mass, final read pending.
   - f/u CT head final read
   .
   # Elevated LDH/Likely malignancy: Initially concerning for ischemia in
   the context of afib with RVR, however given this degree of elevation
   and finding of R axillary lymphadenopathy, now concerned for
   malignancy.  CT torso consistent with melanoma vs. lymphoma.
   - Send peripheral blood for flow cytometry
   - Pathology vs. IR vs. Surgery for FNA, given LN biopsy not possible
   [**2-19**] anticoagulation and unstable status with Afib with RVR and
   hypotension, tenuous respiratory state
   - IP to tap L pleural effusion today as above
   - Oncology aware
   - [**Hospital1 7**] tumor lysis labs
   .
   # Thrombocytopenia:  Trend closely and consider HIT type I vs II;
   currently day 5 of Heparin, as initiated [**10-30**], but no clear history of
   prior Heparin exposure.
   - Trend plts
   - Consider HIT antibodies if plts continue to down-trend
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Currently volume overloaded, on Lasix
   drip.
   - Continue diuresis with lasix gtt and boluses of 40 IV as needed to
   reach goal of negative 2-3 liters today
   - monitor I
s & O
   - ACE/BB once BP stabilizes
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE, but
   coolness resolved today with b/l warm LEs.  No need for arterial
   studies given improvement of sxs, possible resolution of emboli in
   setting of supratherapeutic PTT.  LE doppler negative.  Most likely [**2-19**]
   heart failure.
   .
   # HTN: Blood pressures low secondary to rapid ventricular rate, poor
   diastolic filling, many nodal agents, and low cardiac output.
   .
   # Anemia: Hct stable, concerning for anemia of chronic disease.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   - Continue simvastatin 80mg PO daily
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.
   - Continue insulin sliding scale
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   ICU Care
   Nutrition: heart healthy diet
   Glycemic Control:  as above
   Lines:
   18 Gauge - [**2148-10-30**] 05:44 PM
   20 Gauge - [**2148-11-1**] 11:56 AM
   Arterial Line - [**2148-11-1**] 10:15 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments: with pt and family
   Code status: Full code
   Disposition: CCU care

2148-11-05 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2148-11-4**] 10:30 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2148-11-4**] 10:35 AM
 INVASIVE VENTILATION - START [**2148-11-4**] 02:15 PM
 MULTI LUMEN - START [**2148-11-4**] 03:54 PM
 THORACENTESIS - At [**2148-11-4**] 06:14 PM
 BRONCHOSCOPY - At [**2148-11-4**] 06:54 PM
 URINE CULTURE - At [**2148-11-5**] 12:28 AM
 BLOOD CULTURED - At [**2148-11-5**] 12:29 AM
 BLOOD CULTURED - At [**2148-11-5**] 12:45 AM
 FEVER - 101.9
F - [**2148-11-5**] 02:00 AM
   Increasing resp distress, cxr performed, pt with white out of left
   lung.  Intubated.  IP called to drain loculated effusion (600 ccs
   drained).  Cytology, flow cytometry, pleural fluid analysis and pH
   pending.  Pt also bronched out of concern for mucus plug and was found
   to have thick secretions in the L main, LUL and LLL.
   FNA done, path pending (by IR).
   CT neck:
   1. Paranasal sinus opacification, as detailed, with high-density
   contents of
   the right sphenoid sinus, could reflect inspissated secretions or
   fungal infection.
   2. Debris and aerosolized secretions within the nasal cavity and
   nasopharynx.
   3. Slight asymmetry of the lingual tonsils, left slightly more
   prominent
   compared to the right, wo/obvious mass. Recommend correlation w/exam
   findings.
   4. Nodule within the subcutaneous fat lateral to the right mandibular
   body.
   5. Large left pleural effusion, with associated atelectasis of adjacent
   lung.
   -Assymetry of the right nasopharynx may be positional but could also be
   related
   to an underlying mass, recommend dedicated CT of the sinuses.
   CT head:
   1. No acute intracranial hemorrhage.
   2. Enhancing extra-axial lesions overlying the right frontal lobe, and
   also
   possibly overlying the left frontal lobe along the superior convexity.
   These
   could reflect meningiomas, though given the provided history,
   metastases
   cannot be excluded.
   3. Asymmetric appearance of the cavernous sinus, with prominence and
   fullness
   of the right cavernous sinus, may represent another meningioma. An
   underlying
   mass or vascular lesion cannot be entirely excluded. An MRI is
   suggested for
   further evaluation.
   4. Paranasal sinus opacification, with high-density contents within the
   right
   sphenoid sinus, may reflect inspissated secretions, or fungal
   infection.
   5. Debris and secretions within the nasopharynx and nasal cavity on the
   right.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-11-4**] 06:45 AM
   Vancomycin - [**2148-11-4**] 08:00 PM
   Cefipime - [**2148-11-5**] 04:00 AM
   (Patient currently on vanc/cefepime, not on zosyn anymore)
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,550 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2148-11-4**] 10:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-5**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.3
C (101
   HR: 150 (118 - 162) bpm
   BP: 93/63(71) {78/44(53) - 116/70(82)} mmHg
   RR: 16 (10 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 124.3 kg (admission): 129.5 kg
   Height: 74 Inch
    Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                  2,020 mL
                                                                    907 mL
   PO:
   TF:
   IVF:
                                                                  1,960 mL
                                                                    787 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    390 mL
   Urine:
                                                                  1,135 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/48/143/29/9
   Ve: 9.3 L/min
   PaO2 / FiO2: 358
   Physical Examination
   GEN: NAD, ventilated/intubated
   CV: RRR, no m/r/g; dynamic precordium, displaced and amplified PMI
   palpated laterally at anterior axillary line
   PULM: CTAB, ventilated
   ABD: soft, nt, nd, +bs
   EXTR: mildly improved edema in legs (2+ b/l) - symmetric
   Labs / Radiology
   134 K/uL
   9.8 g/dL
   237 mg/dL
   2.0 mg/dL
   29 mEq/L
   4.7 mEq/L
   53 mg/dL
   106 mEq/L
   148 mEq/L
   28.5 %
   10.5 K/uL
        [image002.jpg]
                            [**2148-11-3**]  04:16 AM
                            [**2148-11-3**]  06:11 PM
                            [**2148-11-3**]  07:15 PM
                            [**2148-11-4**]  03:06 AM
                            [**2148-11-4**]  03:14 AM
                            [**2148-11-4**]  10:51 AM
                            [**2148-11-4**]  04:30 PM
                            [**2148-11-4**]  07:27 PM
                            [**2148-11-5**]  04:23 AM
                            [**2148-11-5**]  04:45 AM
   WBC
   8.1
   8.2
   10.5
   Hct
   30.8
   30.4
   29.7
   28.5
   Plt
   139
   114
   134
   Cr
   0.9
   1.1
   1.1
   1.1
   2.0
   TropT
   0.06
   TCO2
   38
   35
   34
   33
   35
   Glucose
   186
   163
   173
   237
   Other labs: PT / PTT / INR:16.5/72.0/1.5, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:60/77, Alk Phos / T Bili:178/0.8,
   Differential-Neuts:50.0 %, Band:17.0 %, Lymph:26.0 %, Mono:6.0 %,
   Eos:0.0 %, D-dimer:9918 ng/mL, Fibrinogen:960 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:3.1 g/dL, LDH:4720 IU/L, Ca++:9.2 mg/dL, Mg++:2.4
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x7, recent
   spontaneous conversion to sinus on Amio gtt, back in a fib with RVR.
   Now intubated for respiratory distress.
   .
   # Elevated LDH/Likely malignancy: Initially concerning for ischemia in
   the context of afib with RVR, however given this degree of elevation
   and finding of R axillary lymphadenopathy, now concerned for
   malignancy.  CT torso consistent w/melanoma vs. lymphoma.
   - f/u  peripheral blood sent for flow cytometry
   - f/u LN biopsy results
   - f/u L pleural effusion results
   - [**Hospital1 7**] tumor lysis labs
 K, phos, uric acid, Cr
   - f/u oncology recs
   .
   # Hypotension:  Likely [**2-19**] Afib with RVR and/or infection/sepsis. On
   pressors.
   - wean pressors as tolerated
   - rate control with amiodarone
   - for infection
 see fevers bulletpoint below
   - Check CVP
   - Consider swan
   - Consider TTE
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   versus PNA given L pleural effusion versus other infectious etiology.
   - f/u tap of L pleural effusion - flow cytometry and cytology
   - f/u oncology recs & FNA biopsy results
   - Continue Vanc/cefepime
   - Trend fever curve, WBC
   - f/u Bcx, Ucx
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   diuresis.  Cardioversion x5 without success for more than 1 hour.
   Spontaneously converted to sinus rhythm yesterday on Amiodarone, back
   in A fib this morning after Amio drip was d/c
ed.  Re-initiated Amio
   drip with conversion to sinus subsequently, but since [**11-3**] back in a
   fib with RVR at rates 120
s. 2 more failed cardioversions on [**11-4**]/9.
   - D/c digoxin due to renal failure
   - Continue Amiodarone 400mg po bid
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - No coumadin as want to have flexibility regarding procedures
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Tolerating ventilator well. Had white-out of left lung
   yesterday afternoon, but cleared shortly thereafter; believed to be due
   to mucus plugging that was ameliorated by suctioning.
   - Wean ventilator as tolerated
   .
   # Acute renal failure: Cr jumped from approximately 1 to 2.0 today.
   - Monitor [**Hospital1 **] electrolytes
   - Send urine electrolytes
   - d/c digoxin
   - consider decreasing allopurinol dose if Cr continues to rise
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.
   - follow mental status, but limited given sedation
   - try to decrease sedation and examine patient today
   .
   # Thrombocytopenia:  Trend closely and consider HIT type I vs II;
   currently day 5 of Heparin, as initiated [**10-30**], but no clear history of
   prior Heparin exposure. Platelets rose today.
   - Trend plts
   - Consider HIT antibodies if platelets continue to down-trend
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Currently volume overloaded, on Lasix
   drip.
   - Continue diuresis with lasix gtt with goal CVP of 15-18
   - monitor I
s & O
   - ACE/BB once BP stabilizes
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE, but
   coolness resolved today with b/l warm LEs.  No need for arterial
   studies given improvement of sxs, possible resolution of emboli in
   setting of supratherapeutic PTT.  LE doppler negative.  Edema b/l
   today. Most likely [**2-19**] heart failure.
   .
   # Anemia: Hct stable, concerning for anemia of chronic disease.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   - Change simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity
   - Check LFT
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.
   - Continue insulin sliding scale
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Hypernatremia: Na 148 today
   - free water flushes with tube feeds
   ICU Care
   Nutrition: Tube feeds. Nutrition consult
   Glycemic Control:  as above
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:
   VAP:  elevate HOB, famotidine
   Comments:
   Communication:  Comments: with pt and family
   Code status: Full code
   Disposition: CCU care
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   20 Gauge - [**2148-11-4**] 12:00 AM
   Multi Lumen - [**2148-11-4**] 03:54 PM

2148-11-06 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.6
F - [**2148-11-5**] 10:00 PM
   [**11-5**]:
   -peep 10 --> 8, volume assist; off sedation, opens eyes on command,
   moves extremities spontaneously
   -path should be available tomorrow
   -temp to 102 @ 3pm, cultured
   -small pericardial effusion w/o tamponnade, on info echo @ bedside
   -increased glargine for sugars in 200s, up to 16U
   -family updated
   -Central venous O2 sat = 76; so CI of 4.1%; tried fluid bolus
   -patient was getting free water through tube feed flushes; Na came down
   to wnl, so decreased volume of free water
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-11-4**] 06:45 AM
   Vancomycin - [**2148-11-5**] 08:51 AM
   Cefipime - [**2148-11-6**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,050 units/hour
   Norepinephrine - 0.45 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-11-5**] 12:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.9
C (100.2
   HR: 143 (133 - 144) bpm
   BP: 91/55(65) {87/53(63) - 112/72(83)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 124.3 kg (admission): 129.5 kg
   Height: 74 Inch
    CVP: 6 (5 - 14)mmHg
   CO/CI (Fick): (8.6 L/min) / (3.4 L/min/m2)
   Mixed Venous O2% Sat: 71 - 76
   Total In:
                                                                  3,938 mL
                                                                    929 mL
   PO:
   TF:
                                                                    157 mL
                                                                    202 mL
   IVF:
                                                                  3,341 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    460 mL
   Urine:
                                                                  1,145 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,793 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 93%
   ABG: 7.44/50/63/31/7
   Ve: 12.1 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GEN: NAD, ventilated/intubated, opens eyes to verbal stimuli
   CV: tachycardic, irregular, no m/r/g; dynamic precordium, displaced and
   amplified PMI palpated laterally at anterior axillary line
   PULM: Equal BS b/l with significant rhonchi b/l on ventilator, no rales
   appreciated anteriorly
   ABD: Soft, nt, nd, +bs
   EXTR: mildly improved edema in legs (2+ LLE, 1+ RLE)
 asymmetry of LE
   edema unchanged
   Labs / Radiology
   110 K/uL
   8.7 g/dL
   262 mg/dL
   2.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   59 mg/dL
   102 mEq/L
   142 mEq/L
   27.1 %
   8.9 K/uL
        [image002.jpg]
                            [**2148-11-4**]  10:51 AM
                            [**2148-11-4**]  04:30 PM
                            [**2148-11-4**]  07:27 PM
                            [**2148-11-5**]  04:23 AM
                            [**2148-11-5**]  04:45 AM
                            [**2148-11-5**]  03:32 PM
                            [**2148-11-5**]  04:55 PM
                            [**2148-11-5**]  08:30 PM
                            [**2148-11-6**]  04:00 AM
                            [**2148-11-6**]  04:57 AM
   WBC
   10.5
   8.9
   Hct
   28.5
   23
   27.1
   Plt
   134
   110
   Cr
   2.0
   2.4
   2.4
   TCO2
   35
   34
   33
   35
   33
   28
   35
   Glucose
   237
   262
   Other labs: PT / PTT / INR:15.9/97.2/1.4, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:43/87, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:61.3 %, Band:2.0 %, Lymph:32.7
   %, Mono:4.5 %, Eos:1.0 %, D-dimer:9918 ng/mL, Fibrinogen:960 mg/dL,
   Lactic Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:5230 IU/L, Ca++:9.1
   mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Fluid analysis / Other labs: Axillary LN FNA, pleural fluid cytology
   [**11-4**] pending
   Vanc trough 13.5
   [**2148-11-6**]  04:57a
   ---------------------------------------------------pH 7.44 pCO2 50 pO2
   63 HCO3 35
   Microbiology: [**2148-11-5**] 3:34 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2148-11-5**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   BCx, UCx pending
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x7, recent
   spontaneous conversion to sinus on Amio gtt, back in a fib with RVR.
   Now intubated for respiratory distress.
   .
   # Elevated LDH/Likely malignancy: Initially concerning for ischemia in
   the context of afib with RVR, however given this degree of elevation
   and finding of R axillary lymphadenopathy, now concerned for
   malignancy.  CT torso consistent w/ melanoma vs. lymphoma.
   Cytology/cytometry/biopsy results pending.
   - f/u  peripheral blood sent for flow cytometry
   - f/u LN biopsy results
   - f/u L pleural effusion results
   - [**Hospital1 7**] tumor lysis labs
 K, phos, uric acid, Cr
   - f/u oncology recs
   .
   # Hypotension:  Likely [**2-19**] Afib with RVR and/or infection/sepsis, but
   improved since yesterday. On pressors.  CVP 7 this AM.
   - Wean pressors as tolerated
   - Continue Amiodarone for rate control, though patient unlikely to
   convert to sinus given persistent a fib with failure to cardiovert and
   maintain in sinus
   - Antibiotics for infection, as below (7 this AM)
   - Float swan today, will consider diuresis based on pressure readings.
   - Bolus to keep CVP at >8
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   versus PNA given L pleural effusion versus other infectious etiology.
   - f/u tap of L pleural effusion - flow cytometry and cytology
   - f/u oncology recs & FNA biopsy results
   - Continue Vanc/cefepime
   - Trend fever curve, WBC
   - f/u Bcx, Ucx
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   diuresis.  Cardioversion x5 without success for more than 1 hour.
   Spontaneously converted to sinus rhythm yesterday on Amiodarone, back
   in A fib this morning after Amio drip was d/c
ed.  Re-initiated Amio
   drip with conversion to sinus subsequently, but since [**11-3**] back in a
   fib with RVR at rates 120
s. 2 more failed cardioversions on [**11-4**]/9.
   Digoxin d/c
ed due to renal failure.
   - Continue Amiodarone 400mg po bid
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - No coumadin as want to have flexibility regarding procedures
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Tolerating ventilator well. Had white-out of left lung
   yesterday afternoon, but cleared shortly thereafter; believed to be due
   to mucus plugging that was ameliorated by suctioning.
   - Wean ventilator as tolerated
   .
   # Acute renal failure: Cr jumped from approximately 1 to 2.0 today.
   - Monitor [**Hospital1 **] electrolytes
   - consider decreasing allopurinol dose if Cr continues to rise
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   - follow mental status, but limited given sedation
   - try to decrease sedation and examine patient today
   .
   # Thrombocytopenia:  Trend closely and consider HIT type I vs II;
   currently day 8 of Heparin, as initiated [**10-30**], but no clear history of
   prior Heparin exposure. Platelets increased yesterday but back down
   today.
   - Trend plts
   - Consider HIT antibodies if platelets continue to down-trend
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Currently volume overloaded, on Lasix
   drip.
   - Continue diuresis with lasix gtt with goal CVP >8
   - monitor I
s & O
   - ACE/BB once BP stabilizes
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE, but
   coolness resolved today with b/l warm LEs.  No need for arterial
   studies given improvement of sxs, possible resolution of emboli in
   setting of supratherapeutic PTT.  LE doppler negative.  Edema b/l
   today. Most likely [**2-19**] heart failure.
   .
   # Anemia: Hct stable, concerning for anemia of chronic disease.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   - Change simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity
   - Follow LFT
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in -patient
   - uptitrate insulin today
   - Continue insulin sliding scale
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Hypernatremia: Na 148 resolved with free water flushes with tube
   feeds.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-11-5**] 12:20 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   20 Gauge - [**2148-11-4**] 12:00 AM
   Multi Lumen - [**2148-11-4**] 03:54 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:
   VAP:  elevate HOB, famotidine
   Comments:
   Communication:  Comments: with pt and family
   Code status: Full code
   Disposition: CCU care

2148-11-07 05:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - START [**2148-11-6**] 02:46 PM (swan placed).
 CARDIOVERSION/DEFIBRILLATION - At [**2148-11-6**] 10:03 PM
 FEVER - 103.6
C - [**2148-11-6**] 10:00 PM
   [**11-6**]:
   -Nosebleed again
   -Swan placed.  Given 250cc bolus with measurement of PA diastolic,
   wedge, BP, UOP to calculate cardiac index.
   -HR 160's-170's, maxed out on Levophed
   -Cardioverted x1, sinus tach at 110's briefly (<10min) then back in a
   fib rates in 130's.  Started on Neosynephrine and continued on max
   Levophed.
   -Started on Insulin drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-11-4**] 06:45 AM
   Vancomycin - [**2148-11-6**] 09:00 AM
   Cefipime - [**2148-11-7**] 05:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 7 units/hour
   Fentanyl - 50 mcg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-11-6**] 05:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-7**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 36.2
C (97.2
   HR: 134 (111 - 155) bpm
   BP: 101/66(77) {74/38(48) - 115/70(81)} mmHg
   RR: 16 (8 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 124.3 kg (admission): 129.5 kg
   Height: 74 Inch
    CVP: 13 (0 - 15)mmHg
   PAP: (50 mmHg) / (29 mmHg)
   CO/CI (Fick): (7 L/min) / (2.8 L/min/m2)
   Mixed Venous O2% Sat: 48 - 61
   Total In:
                                                                  4,031 mL
                                                                    937 mL
   PO:
   TF:
                                                                    741 mL
                                                                     57 mL
   IVF:
                                                                  2,770 mL
                                                                    830 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                     97 mL
   Urine:
                                                                  1,150 mL
                                                                     97 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,881 mL
                                                                    840 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 561 (476 - 561) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.34/59/109/28/4
   Ve: 9.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: NAD, ventilated/intubated, unresponsive to verbal stimuli or pain
   HEENT:  Pupils constricted (~1.5mm), non-reactive to light
   CV: Tachycardic, irregular, no m/r/g; dynamic precordium, displaced and
   amplified PMI palpated laterally at anterior axillary line
   PULM: Equal BS b/l with significant rhonchi b/l on ventilator, no rales
   appreciated anteriorly
   ABD: Soft, NT/ND, +bs
   EXTR: Dependent edema in Les (2+ LLE, 1+ RLE)
 asymmetry of LE edema
   unchanged
   Labs / Radiology
   103 K/uL
   8.2 g/dL
   164 mg/dL
   2.8 mg/dL
   28 mEq/L
   4.7 mEq/L
   63 mg/dL
   104 mEq/L
   143 mEq/L
   24.8 %
   7.6 K/uL
        [image002.jpg]
                            [**2148-11-6**]  04:00 AM
                            [**2148-11-6**]  04:57 AM
                            [**2148-11-6**]  09:37 AM
                            [**2148-11-6**]  04:05 PM
                            [**2148-11-6**]  05:13 PM
                            [**2148-11-6**]  05:28 PM
                            [**2148-11-6**]  11:14 PM
                            [**2148-11-6**]  11:28 PM
                            [**2148-11-7**]  03:36 AM
                            [**2148-11-7**]  03:58 AM
   WBC
   8.9
   7.6
   Hct
   27.1
   25.5
   24.8
   Plt
   110
   103
   Cr
   2.4
   2.4
   2.8
   TCO2
   35
   35
   33
   34
   35
   33
   Glucose
   [**Telephone/Fax (3) 10907**]
   Other labs: PT / PTT / INR:15.9/67.1/1.4, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:43/87, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:61.3 %, Band:2.0 %, Lymph:32.7
   %, Mono:4.5 %, Eos:1.0 %, D-dimer:9918 ng/mL, Fibrinogen:960 mg/dL,
   Lactic Acid:2.1 mmol/L, Albumin:3.1 g/dL, LDH:5230 IU/L, Ca++:9.5
   mg/dL, Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR [**11-6**]
   As compared to the previous radiograph, the endotracheal tube and the
   nasogastric tube are in unchanged position. A newly introduced
   Swan-Ganz catheter is also in correct position, its tip projects over
   the proximal parts of the right pulmonary artery. Positional decrease
   in transparency of the left hemithorax. A small right basal atelectasis
   has newly occurred. There is no evidence of pneumothorax. The size of
   the cardiac silhouette is unchanged.
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x7, recent
   spontaneous conversion to sinus on Amio gtt, back in a fib with RVR.
   Now intubated for respiratory distress.
   .
   # Elevated LDH/Likely malignancy: Initially concerning for ischemia in
   the context of afib with RVR, however given this degree of elevation
   and finding of R axillary lymphadenopathy, now concerned for
   malignancy.  CT torso consistent w/ melanoma vs. lymphoma.
   Cytology/cytometry/biopsy results pending.
   - f/u with Heme/Onc for biopsy results, L pleural effusion results,
   peripheral blood sent for flow cytometry
   - Core biopsy today, as ?insufficient sample from FNA; call IR to
   confirm
   - Daily tumor lysis labs
 K, phos, uric acid, Cr
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   diuresis.  Cardioversion x5 without success for more than 1 hour.
   Spontaneously converted to sinus rhythm yesterday on Amiodarone, back
   in A fib this morning after Amio drip was d/c
ed.  Re-initiated Amio
   drip with conversion to sinus subsequently, but since [**11-3**] back in a
   fib with RVR at rates 120
s. 2 more failed cardioversions on [**11-4**]/9.
   Digoxin d/c
ed due to renal failure.  Rates went up to high 150
   overnight with SBP in 70
s, started on second pressor (Neosynephrine)
   in anticipation of starting Esmolol drip for rate control.  However,
   the decision was made to attempt cardioversion, and patient underwent
   8^th in-house cardioversion and was in sinus tachycardia for <10
   minutes before going back into afib at rates in 130
s-140
   Refractory a fib with difficult to control rates may be [**2-19**] pericardial
   irritation vs. inflammatory drive from malignancy; see below for onc
   management plan.
   - Continue Amiodarone 400mg po bid
   - Continue Neosynephrine and Levophed at (N) 0.5 mcg/kg/hr and (L) 1.5
   mcg/kg/hr
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, consider very slow
   Esmolol drip as tolerated
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   but improved since yesterday. Now on 2 pressors, Levophed and
   Norsynephrine.  Cardiac index >2.5 with SVR in 700
s on 2 pressors,
   lower than expected.  Appears to have a distributive shock in addition
   to cardiogenic shock.
   - Monitor cardiac index serially
   - Maintain Levophed and attempt to wean off Norsynephrine if tolerated,
   particularly given low EF
   - Continue Amiodarone po for rate control, though patient unlikely to
   convert to sinus given persistent a fib with failure to cardiovert and
   maintain in sinus
   - Antibiotics for infection, as below (7 this AM)
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   versus culture negative sepsis; currently broadly covering with
   Vanc/Cefepime but without full anaerobic coverage.  Fever up to [**Age over 90 **]
   yesterday, written for Tylenol without breakthrough this morning.
   - Consult ID re: possible infectious etiology
   - f/u blood and urine cultures and tap of L pleural effusion - flow
   cytometry and cytology
   - f/u oncology recs & FNA biopsy results, ?core biopsy today
   - Continue Vanc/cefepime (Start [**11-4**]); ID approval for Vanc needed
   today
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially.
   Swan placed yesterday, shows adequate CI on 2 pressors (2.7-3.3) but
   increasing renal failure, likely [**2-19**] poor forward flow.
   - monitor I
s & O
s and cardiac index
   - ACE/BB once BP stabilizes
   .
   # Anemia: Anemia of chronic disease, but now with down-trending hct, 24
   today.  Goal to keep >25.
   - Transfuse 2 units PRBC
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Tolerating ventilator well. Had white-out of left lung
   yesterday afternoon, but cleared shortly thereafter; believed to be due
   to mucus plugging that was ameliorated by suctioning.  Currently on
   CPAP/Pressure Support Ventilation with increased recruitment of alveoli
   on PEEP 10, PS 15 based on CXR.
   - Decrease Pressure Support today
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Acute renal failure: Cr 2.8 today, continuing to trend up from
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension
   - Monitor [**Hospital1 **] electrolytes
   - consider decreasing allopurinol dose if Cr continues to rise
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status worse today, pt not responsive to pain or verbal stimuli.
   - Decrease sedation and f/u mental status
   .
   # Thrombocytopenia:  Trend closely and consider HIT type I vs II;
   currently day 8 of Heparin, as initiated [**10-30**], but no clear history of
   prior Heparin exposure. Platelets increased yesterday but back down
   today.
   - Trend plts post-transfusion
   - Consider HIT antibodies if platelets continue to down-trend
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE, but
   coolness resolved today with b/l warm LEs.  No need for arterial
   studies given improvement of sxs, possible resolution of emboli in
   setting of supratherapeutic PTT.  LE doppler negative.  Edema
   asymmetric but temperature of extremities equal b/l today. Most likely
   [**2-19**] heart failure.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Arrange family meeting to discuss pt status and
   management plans.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-11-5**] 12:20 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   20 Gauge - [**2148-11-4**] 12:00 AM
   Multi Lumen - [**2148-11-4**] 03:54 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:
   VAP:  elevate HOB, famotidine
   Comments:
   Communication:  Comments: with pt and family
   Code status: Full code
   Disposition: CCU care

2148-11-08 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2148-11-7**] 04:15 PM
 FEVER - 101.3
C - [**2148-11-7**] 09:00 PM
   -prelim path results concerning for [**Location (un) 10939**] cell carcinoma (rare
   neuroendocrine tumor)
   -given dose of lasix for slightly elevated CVP and fluid + state
   -given 2 units PRBCs with good improvement in crit
   -fungal blood cxs sent
   -Pathology contact is dr [**First Name (STitle) 4778**] [**Numeric Identifier 10940**]
   -heart rate under better control with metoprolol and esmolol gtt (pt in
   sinus with esmolol gtt x2hrs, then uptitrated to maintain good
   hemodynamics when pt went out of sinus).
   -ID consult-recommended mini-BAL, DFA, start emperic tx for flu,
   droplet percautions.
   -IP--?? when to stop heparin
   -poor O2 sats on PS, switched to AC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-11-7**] 10:09 AM
   Cefipime - [**2148-11-8**] 03:56 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Insulin - Regular - 5 units/hour
   Phenylephrine - 1 mcg/Kg/min
   Heparin Sodium - 950 units/hour
   Esmolol - 100 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-11-7**] 12:00 PM
   Metoprolol - [**2148-11-7**] 04:35 PM
   Midazolam (Versed) - [**2148-11-7**] 07:52 PM
   Fentanyl - [**2148-11-7**] 09:03 PM
   Furosemide (Lasix) - [**2148-11-7**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-8**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.4
C (101.1
   HR: 119 (84 - 141) bpm
   BP: 90/54(67) {80/46(55) - 116/69(82)} mmHg
   RR: 23 (10 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 124.3 kg (admission): 129.5 kg
   Height: 74 Inch
    CVP: 13 (9 - 15)mmHg
   PAP: (53 mmHg) / (32 mmHg)
   CO/CI (Fick): (11 L/min) / (4.3 L/min/m2)
   Mixed Venous O2% Sat: 57 - 72
   Total In:
                                                                  4,845 mL
                                                                  1,456 mL
   PO:
   TF:
                                                                    584 mL
                                                                    473 mL
   IVF:
                                                                  3,277 mL
                                                                    983 mL
   Blood products:
                                                                    673 mL
   Total out:
                                                                    812 mL
                                                                    720 mL
   Urine:
                                                                    782 mL
                                                                    720 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  4,033 mL
                                                                    736 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 352 (339 - 494) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.41/50/96.[**Numeric Identifier 181**]/30/5
   Ve: 9.7 L/min
   PaO2 / FiO2: 194
   Physical Examination
   GEN: NAD, ventilated/intubated, unresponsive to verbal stimuli or pain
   HEENT:  Pupils constricted (~1.5mm), non-reactive to light
   CV: Tachycardic, irregular, no m/r/g; dynamic precordium, displaced and
   amplified PMI palpated laterally at anterior axillary line
   PULM: Equal BS b/l with significant rhonchi b/l on ventilator, no rales
   appreciated anteriorly
   ABD: Soft, NT/ND, +bs
   EXTR: Dependent edema in Les (2+ LLE, 1+ RLE)
 asymmetry of LE edema
   unchanged+
   Labs / Radiology
   71 K/uL
   8.6 g/dL
   164 mg/dL
   2.8 mg/dL
   30 mEq/L
   4.5 mEq/L
   69 mg/dL
   100 mEq/L
   139 mEq/L
   24.6 %
   5.2 K/uL
        [image002.jpg]
                            [**2148-11-7**]  03:58 AM
                            [**2148-11-7**]  05:51 AM
                            [**2148-11-7**]  07:36 AM
                            [**2148-11-7**]  12:13 PM
                            [**2148-11-7**]  03:58 PM
                            [**2148-11-7**]  11:57 PM
                            [**2148-11-7**]  11:59 PM
                            [**2148-11-8**]  04:17 AM
                            [**2148-11-8**]  04:47 AM
                            [**2148-11-8**]  06:30 AM
   WBC
   6.1
   5.2
   Hct
   23
   26.1
   24.0
   24.6
   Plt
   74
   71
   Cr
   2.7
   2.8
   TCO2
   33
   32
   30
   31
   34
   32
   33
   Glucose
   164
   Other labs: PT / PTT / INR:14.3/35.7/1.2, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:61.3 %, Band:2.0 %, Lymph:32.7
   %, Mono:4.5 %, Eos:1.0 %, D-dimer:9918 ng/mL, Fibrinogen:960 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:3516 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x7, recent
   spontaneous conversion to sinus on Amio gtt, back in a fib with RVR.
   Now intubated for respiratory distress.
   .
   # Elevated LDH/Likely malignancy: Initially concerning for ischemia in
   the context of afib with RVR, however given this degree of elevation
   and finding of R axillary lymphadenopathy, now concerned for
   malignancy.  CT torso consistent w/ melanoma vs. lymphoma.
   Cytology/cytometry/biopsy results pending.
   - f/u with Heme/Onc for biopsy results, L pleural effusion results,
   peripheral blood sent for flow cytometry
   - Core biopsy today, as ?insufficient sample from FNA; call IR to
   confirm
   - Daily tumor lysis labs
 K, phos, uric acid, Cr
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   diuresis.  Cardioversion x5 without success for more than 1 hour.
   Spontaneously converted to sinus rhythm yesterday on Amiodarone, back
   in A fib this morning after Amio drip was d/c
ed.  Re-initiated Amio
   drip with conversion to sinus subsequently, but since [**11-3**] back in a
   fib with RVR at rates 120
s. 2 more failed cardioversions on [**11-4**]/9.
   Digoxin d/c
ed due to renal failure.  Rates went up to high 150
   overnight with SBP in 70
s, started on second pressor (Neosynephrine)
   in anticipation of starting Esmolol drip for rate control.  However,
   the decision was made to attempt cardioversion, and patient underwent
   8^th in-house cardioversion and was in sinus tachycardia for <10
   minutes before going back into afib at rates in 130
s-140
   Refractory a fib with difficult to control rates may be [**2-19**] pericardial
   irritation vs. inflammatory drive from malignancy; see below for onc
   management plan.
   - Continue Amiodarone 400mg po bid
   - Continue Neosynephrine and Levophed at (N) 0.5 mcg/kg/hr and (L) 1.5
   mcg/kg/hr
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, consider very slow
   Esmolol drip as tolerated
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   but improved since yesterday. Now on 2 pressors, Levophed and
   Norsynephrine.  Cardiac index >2.5 with SVR in 700
s on 2 pressors,
   lower than expected.  Appears to have a distributive shock in addition
   to cardiogenic shock.
   - Monitor cardiac index serially
   - Maintain Levophed and attempt to wean off Norsynephrine if tolerated,
   particularly given low EF
   - Continue Amiodarone po for rate control, though patient unlikely to
   convert to sinus given persistent a fib with failure to cardiovert and
   maintain in sinus
   - Antibiotics for infection, as below (7 this AM)
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   versus culture negative sepsis; currently broadly covering with
   Vanc/Cefepime but without full anaerobic coverage.  Fever up to [**Age over 90 **]
   yesterday, written for Tylenol without breakthrough this morning.
   - Consult ID re: possible infectious etiology
   - f/u blood and urine cultures and tap of L pleural effusion - flow
   cytometry and cytology
   - f/u oncology recs & FNA biopsy results, ?core biopsy today
   - Continue Vanc/cefepime (Start [**11-4**]); ID approval for Vanc needed
   today
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially.
   Swan placed yesterday, shows adequate CI on 2 pressors (2.7-3.3) but
   increasing renal failure, likely [**2-19**] poor forward flow.
   - monitor I
s & O
s and cardiac index
   - ACE/BB once BP stabilizes
   .
   # Anemia: Anemia of chronic disease, but now with down-trending hct, 24
   today.  Goal to keep >25.
   - Transfuse 2 units PRBC
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Tolerating ventilator well. Had white-out of left lung
   yesterday afternoon, but cleared shortly thereafter; believed to be due
   to mucus plugging that was ameliorated by suctioning.  Currently on
   CPAP/Pressure Support Ventilation with increased recruitment of alveoli
   on PEEP 10, PS 15 based on CXR.
   - Decrease Pressure Support today
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Acute renal failure: Cr 2.8 today, continuing to trend up from
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension
   - Monitor [**Hospital1 **] electrolytes
   - consider decreasing allopurinol dose if Cr continues to rise
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status worse today, pt not responsive to pain or verbal stimuli.
   - Decrease sedation and f/u mental status
   .
   # Thrombocytopenia:  Trend closely and consider HIT type I vs II;
   currently day 8 of Heparin, as initiated [**10-30**], but no clear history of
   prior Heparin exposure. Platelets increased yesterday but back down
   today.
   - Trend plts post-transfusion
   - Consider HIT antibodies if platelets continue to down-trend
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE, but
   coolness resolved today with b/l warm LEs.  No need for arterial
   studies given improvement of sxs, possible resolution of emboli in
   setting of supratherapeutic PTT.  LE doppler negative.  Edema
   asymmetric but temperature of extremities equal b/l today. Most likely
   [**2-19**] heart failure.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Arrange family meeting to discuss pt status and
   management plans.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-11-8**] 12:20 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   20 Gauge - [**2148-11-6**] 12:00 AM
   PA Catheter - [**2148-11-6**] 02:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-09 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2148-11-8**] 02:46 PM
 PA CATHETER - START [**2148-11-8**] 05:05 PM
 CORDIS/INTRODUCER - START [**2148-11-9**] 04:13 AM
   temp pacing wire
 FEVER - 102.0
C - [**2148-11-8**] 11:00 AM
   [**11-8**]:
   -path confirmed neuroendocrine tumor consistent with merckel cell
   carcinoma
   -derm agrees with path, will follow along peripherally, and they have
   an attending who knows about merckel cell who they will try to have
   leave a note/comment.
   -ablation procedure by EP
   -after AV node modification and pacemaker placement by EP, continues in
   afib w/RVR
   -cardioverted [**11-8**] PM out of aflutter, - into sinus, then back into
   aflutter
   -restarted on Amio drip per EP
   -DIC (not TTP, no schistocytes on smear per heme); treated with
   cryoprecipitate
   -per ID: started cipro to have 3 antibiotics on board
   -ENT: in sinus/nasopharynx not infection, but instead bleed (seen on
   CT); not infectious source, packing minimal/absorbable there.
   -family meeting re: diagnosis, poor prognosis, toxicity of chemo,
   palliative care only without cure
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-11-7**] 10:09 AM
   Ciprofloxacin - [**2148-11-9**] 01:00 AM
   Cefipime - [**2148-11-9**] 03:54 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 4 units/hour
   Heparin Sodium - 1,200 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-11-8**] 12:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-9**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.7
C (98.1
   HR: 75 (74 - 135) bpm
   BP: 116/56(72) {93/48(63) - 134/73(293)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 10 (10 - 241)mmHg
   PAP: (60 mmHg) / (25 mmHg)
   PCWP: 35 (35 - 35) mmHg
   CO/CI (Fick): (8.6 L/min) / (3.3 L/min/m2)
   Mixed Venous O2% Sat: 67 - 67
   Total In:
                                                                  5,037 mL
                                                                  1,339 mL
   PO:
   TF:
                                                                  1,078 mL
                                                                    508 mL
   IVF:
                                                                  3,060 mL
                                                                    711 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                  3,380 mL
                                                                  1,540 mL
   Urine:
                                                                  3,380 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,657 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/55/107/31/6
   Ve: 7.7 L/min
   PaO2 / FiO2: 214
   Physical Examination
   GEN: NAD, ventilated/intubated, responsive to sternal rub but no
   purposeful movement
   CV: Tachycardic, irregular, no m/r/g; dynamic precordium, displaced and
   amplified PMI palpated laterally at anterior axillary line
   PULM: Equal BS b/l with significant rhonchi b/l on ventilator, no rales
   appreciated anteriorly
   ABD: Soft, NT/ND, +bs
   EXTR: Dependent edema in Les (2+ LLE, 1+ RLE)
 improved since
   admission
   Labs / Radiology
   63 K/uL
   9.5 g/dL
   115 mg/dL
   2.0 mg/dL
   31 mEq/L
   4.1 mEq/L
   61 mg/dL
   100 mEq/L
   140 mEq/L
   28.2 %
   5.0 K/uL
        [image002.jpg]
                            [**2148-11-7**]  12:13 PM
                            [**2148-11-7**]  03:58 PM
                            [**2148-11-7**]  11:57 PM
                            [**2148-11-7**]  11:59 PM
                            [**2148-11-8**]  04:17 AM
                            [**2148-11-8**]  04:47 AM
                            [**2148-11-8**]  06:30 AM
                            [**2148-11-8**]  08:55 PM
                            [**2148-11-8**]  09:19 PM
                            [**2148-11-9**]  04:10 AM
   WBC
   6.1
   5.2
   5.0
   Hct
   23
   26.1
   24.0
   24.6
   29.3
   28.2
   Plt
   74
   71
   63
   Cr
   2.7
   2.8
   2.3
   2.0
   TCO2
   31
   34
   32
   33
   34
   34
   Glucose
   164
   153
   115
   Other labs: PT / PTT / INR:14.0/41.9/1.2, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:4819 ng/mL, Fibrinogen:867
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:3516 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x7, recent
   spontaneous conversion to sinus on Amio gtt, back in a fib with RVR.
   Now intubated for respiratory distress.
   .
   # Elevated LDH/Likely malignancy: Initially concerning for ischemia in
   the context of afib with RVR, however given this degree of elevation
   and finding of R axillary lymphadenopathy, now concerned for
   malignancy.  CT torso consistent w/ melanoma vs. lymphoma.
   Cytology/cytometry/biopsy results pending.
   - f/u with derm for biopsy results, L pleural effusion results,
   peripheral blood sent for flow cytometry
   - Daily tumor lysis labs
 K, phos, uric acid, Cr
   - will attempt to obtain plasma metanephrines from labs prior to
   initiation of pressors.
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   more recently, esmolol gtt and pressors.  Cardoversion x8 has been
   unsuccessful, however given that he is now fully loaded on amio and in
   [**Last Name (LF) 10946**], [**First Name3 (LF) **] re-attempt cardioversion today and then consider EP eval
   today for ablation of flutter or partial AV nodal ablation.  Refractory
   afib with difficult to control rates may be [**2-19**] pericardial irritation
   vs. inflammatory drive from malignancy; see below for onc management
   plan, also concern for metastatic cancer to myocardium.
   - Continue Amiodarone 400mg po bid
   - Continue Neosynephrine and Levophed as needed
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, titrate esmolol and
   pressures for optimal hemodynamics.
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   now on 2 pressors, Levophed and Norsynephrine.  Cardiac index WNL and
   improved with titration of esmolol and pressors.
   - Continue to monitor cardiac index serially
   -titrate esmolol/pressures to hemodynamics
   -diuresis if tolerated based on CVP
   - Continue Amiodarone po for rate control
   - Antibiotics for infection
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   versus culture negative sepsis; currently broadly covering with
   Vanc/Cefepime but without full anaerobic coverage.  Fever up to [**Age over 90 **]
   yesterday, written for Tylenol without breakthrough this morning.
   Concern for drug tox, viral etiology as well.  Appreciate ID recs.
   -bronchial washings/DFA/viral cxs pending
   -f/u ENT regarding sinus infection, concern for fungal etiology
   -continue tamiflu/contact [**Name (NI) 10945**] for now
   -switch famotidine to PPI out of concern for drug fever
   -will DC abx in 24 hrs if no growth
   - f/u blood and urine cultures and tap of L pleural effusion - flow
   cytometry and cytology
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes
   .
   # Anemia: Pt did not respond as expected to 2 units PRBCs, however no
   evidence of active bleed
   - Transfuse additional 2 units PRBC, lasix
   - post-transfusion crit
   - DIC labs today
   - blood smear today
   -guiac stools
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Tolerating ventilator well however requried CMV last night
   for hypoxia.
   -titrate vent settings to ABGs, wean to PSV as tolerated
   -cultures pending
   -continue abx for now
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Acute renal failure: Cr 2.8 today, continuing to trend up from
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension.  UOP
   adequate.  No indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requrements.
   .
   # Thrombocytopenia:  Worsening.
   - Continue to trend platelets
   - HIT ab today
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE, but
   coolness resolved today with b/l warm LEs.  No need for arterial
   studies given improvement of sxs, possible resolution of emboli in
   setting of supratherapeutic PTT.  LE doppler negative.  Edema
   asymmetric but temperature of extremities equal b/l today. Most likely
   [**2-19**] heart failure.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-11-8**] 12:20 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   20 Gauge - [**2148-11-6**] 12:00 AM
   PA Catheter - [**2148-11-6**] 02:46 PM
   Prophylaxis:
   DVT: heparine
   Stress ulcer: PPI
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ccu care

2148-11-10 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.7
C - [**2148-11-9**] 08:00 PM
   - He's Influenza A positive.  Increased Tamiflu to 150mg [**Hospital1 7**] and
   started Rimantadine 100mg [**Hospital1 7**]
   - Started Digoxin 0.125mg qweek, first dose 10/27.
   - Back in a fib with RVR at 130's, initiated Amio drip
   - Lasix drip with goal -1L (currently positive)
   - Vanc trough low, dosing increased as pt also has improving renal
   function
   -DIC labs wnl
   -HIT antibodies sent
   -ID recommended considering d/c abx if BAL results negative, as cx
   negative so far
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2148-11-9**] 03:54 AM
   Vancomycin - [**2148-11-9**] 04:30 PM
   Ciprofloxacin - [**2148-11-10**] 01:31 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-10**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100
   HR: 96 (78 - 135) bpm
   BP: 101/56(69) {83/43(55) - 117/65(80)} mmHg
   RR: 18 (16 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 130 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 283 (0 - 283)mmHg
   PAP: (57 mmHg) / (29 mmHg)
   CO/CI (Fick): (9.8 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 60 - 70
   Total In:
                                                                  3,438 mL
                                                                    921 mL
   PO:
   TF:
                                                                    940 mL
                                                                    240 mL
   IVF:
                                                                  2,198 mL
                                                                    681 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,380 mL
   Urine:
                                                                  2,900 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    538 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 459 (459 - 459) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/62/111/31/5
   Ve: 10.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   GEN: NAD, ventilated/intubated, no response to sternal rub
   CV: RRR, no m/r/g
   PULM: Equal BS b/l with rhonchi on ventilator
   ABD: Soft, NT/ND, diminished but +bs
   EXTR: Dependent edema in Les (2+ LLE, 1+ RLE)
 improved since
   admission
   Labs / Radiology
   62 K/uL
   9.2 g/dL
   154 mg/dL
   1.9 mg/dL
   31 mEq/L
   4.0 mEq/L
   59 mg/dL
   96 mEq/L
   137 mEq/L
   26.0 %
   4.4 K/uL
                            [**2148-11-8**]  06:30 AM
                            [**2148-11-8**]  08:55 PM
                            [**2148-11-8**]  09:19 PM
                            [**2148-11-9**]  04:10 AM
                            [**2148-11-9**]  02:34 PM
                            [**2148-11-9**]  05:46 PM
                            [**2148-11-9**]  11:34 PM
                            [**2148-11-9**]  11:47 PM
                            [**2148-11-10**]  04:44 AM
                            [**2148-11-10**]  05:14 AM
   WBC
   5.0
   4.4
   Hct
   29.3
   28.2
   33
   27.6
   26.0
   Plt
   63
   62
   Cr
   2.3
   2.0
   1.7
   1.9
   TCO2
   33
   34
   34
   34
   33
   35
   Glucose
   153
   115
   112
   154
   Other labs: PT / PTT / INR:13.2/71.4/1.1, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:5763 ng/mL,
   Fibrinogen:1061 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:3516 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x7, recent
   spontaneous conversion to sinus on Amio gtt, back in a fib with RVR.
   Now intubated for respiratory distress.
   .
   # Merckel Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma.  Cytology/cytometry/biopsy results pending.
   - f/u Onc recs
   - f/u Derm recs, as there is an attending familiar with Merckel Cell
   Carcinoma.
   - will attempt to obtain plasma metanephrines from labs prior to
   initiation of pressors.
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   versus culture negative sepsis; currently broadly covering with
   Vanc/Cefepime but without full anaerobic coverage.  Fever up to [**Age over 90 **]
   yesterday, written for Tylenol without breakthrough this morning.
   Concern for drug tox, viral etiology as well.  Appreciate ID recs.
   Nasopharyngeal swab significant for Influenza A.  ENT consulted,
   reports sinus opacity on head CT bleed rather than infection.
   -Initiate Oseltamivir, Ramantadine for influenza A
   -f/u bronchial washings/DFA/viral cxs pending
   - f/u blood and urine cultures and tap of L pleural effusion - flow
   cytometry and cytology
   -switched famotidine to PPI out of concern for drug fever
   -will DC abx in 24 hrs if no growth
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   more recently, esmolol gtt and pressors.  Cardoversion x8 has been
   unsuccessful, however given that he is now fully loaded on amio and in
   [**Last Name (LF) 10946**], [**First Name3 (LF) **] re-attempt cardioversion today and then consider EP eval
   today for ablation of flutter or partial AV nodal ablation.  Refractory
   afib with difficult to control rates may be [**2-19**] pericardial irritation
   vs. inflammatory drive from malignancy; see below for onc management
   plan, also concern for metastatic cancer to myocardium.  Currently in
   sinus following cardioversion, AV node modification and pacer
   placement, and continuation of po Amiodarone.
   - Continue Amiodarone 400mg po bid
   - Continue Norepinephrine; wean as tolerated
   - Digoxin once weekly, 25% of original dose, per EP
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, pt is no longer on
   esmolol
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   briefly on 2 pressors, Levophed and Norsynephrine, currently only on
   Norepinephrine.  Cardiac index WNL and improved with titration of
   esmolol and pressors, currently off Esmolol as pt is back in sinus with
   HR in 90
s-100
   - Continue to monitor cardiac index serially
   -Goal negative 1L
 initiate Lasix drip if necessary
   - Continue Amiodarone po
   - Continue Vanc/Cefepime/Cipro
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes
   -Lasix drip for goal -1L today; will f/u I/O later
   .
   # Anemia/Thrombocytopenia: Pt did not respond as expected to 2 units
   PRBCs, however no evidence of active bleed.  Transfused additional 2
   units PRBC, lasix given.
   - PM Hct
   - follow DIC labs
   - f/u HIT antibodies
   -guiac stools
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Tolerating ventilator well however requried CMV last night
   for hypoxia.
   -titrate vent settings to ABGs, wean to PSV as tolerated
   -cultures pending
   -continue abx for now
   .
   # Acute renal failure: Cr trending down from peak 2.8, 2.0 today,
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension.  UOP
   adequate.  No indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - Lasix drip if needed for goal -1L as above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requrements.
   .
   # Asymmetric LE edema: LE edema L>R and cooler LLE compared to RLE, but
   coolness resolved today with b/l warm LEs.  No need for arterial
   studies given improvement of sxs, possible resolution of emboli in
   setting of supratherapeutic PTT.  LE doppler negative.  Edema
   asymmetric but temperature of extremities equal b/l today. Most likely
   [**2-19**] heart failure.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   PA Catheter - [**2148-11-8**] 05:05 PM
   Cordis/Introducer - [**2148-11-9**] 04:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-10 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.7
C - [**2148-11-9**] 08:00 PM
   -Sputum cx shows Neisseria meningitides
   -Heparin d/c'ed for Renal HD line placement, turned back on after
   dialysis not initiated
   -evoked potentials not done today
   -Increased Vanc dose
   -
   -Lactate 5.9 <- 8.3
   -Neuro EEG showed encephalopathy (from several days ago)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2148-11-9**] 03:54 AM
   Vancomycin - [**2148-11-9**] 04:30 PM
   Ciprofloxacin - [**2148-11-10**] 01:31 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-10**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100
   HR: 96 (78 - 135) bpm
   BP: 101/56(69) {83/43(55) - 117/65(80)} mmHg
   RR: 18 (16 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 130 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 283 (0 - 283)mmHg
   PAP: (57 mmHg) / (29 mmHg)
   CO/CI (Fick): (9.8 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 60 - 70
   Total In:
                                                                  3,438 mL
                                                                    927 mL
   PO:
   TF:
                                                                    940 mL
                                                                    240 mL
   IVF:
                                                                  2,198 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,380 mL
   Urine:
                                                                  2,900 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    538 mL
                                                                   -453 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 459 (459 - 459) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/62/111/31/5
   Ve: 10.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   62 K/uL
   9.2 g/dL
   154 mg/dL
   1.9 mg/dL
   31 mEq/L
   4.0 mEq/L
   59 mg/dL
   96 mEq/L
   137 mEq/L
   26.0 %
   4.4 K/uL
        [image002.jpg]
                            [**2148-11-8**]  06:30 AM
                            [**2148-11-8**]  08:55 PM
                            [**2148-11-8**]  09:19 PM
                            [**2148-11-9**]  04:10 AM
                            [**2148-11-9**]  02:34 PM
                            [**2148-11-9**]  05:46 PM
                            [**2148-11-9**]  11:34 PM
                            [**2148-11-9**]  11:47 PM
                            [**2148-11-10**]  04:44 AM
                            [**2148-11-10**]  05:14 AM
   WBC
   5.0
   4.4
   Hct
   29.3
   28.2
   33
   27.6
   26.0
   Plt
   63
   62
   Cr
   2.3
   2.0
   1.7
   1.9
   TCO2
   33
   34
   34
   34
   33
   35
   Glucose
   153
   115
   112
   154
   Other labs: PT / PTT / INR:13.2/71.4/1.1, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:5763 ng/mL,
   Fibrinogen:1061 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:3516 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 EPISTAXIS (NOSEBLEED)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
 CARDIOMYOPATHY, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   PA Catheter - [**2148-11-8**] 05:05 PM
   Cordis/Introducer - [**2148-11-9**] 04:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-11 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -required increase in vent settings
   -required extra dose of metoprolol for afib
   -gave 40 lasix for diuresis given elevated CVP, then additional 80 in
   AM
   -started on ceftriaxone for gram negative rods and gram positive cocci
   in sputum, other abx dc'd
   -increased tidal volumes for hypercarbia
   -re-started amiodarone in AM for tachycardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2148-11-9**] 03:54 AM
   Ciprofloxacin - [**2148-11-10**] 01:31 AM
   Vancomycin - [**2148-11-10**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 15 mg/hour
   Insulin - Regular - 4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Metoprolol - [**2148-11-11**] 01:47 AM
   Furosemide (Lasix) - [**2148-11-11**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-11**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 140 (83 - 140) bpm
   BP: 101/52(65) {84/41(55) - 115/64(79)} mmHg
   RR: 24 (12 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 140.4 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 17 (10 - 17)mmHg
   PAP: (56 mmHg) / (32 mmHg)
   CO/CI (Fick): (7.9 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 61 - 67
   Total In:
                                                                  3,723 mL
                                                                    878 mL
   PO:
   TF:
                                                                  1,528 mL
                                                                    392 mL
   IVF:
                                                                  1,994 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  3,860 mL
                                                                    260 mL
   Urine:
                                                                  3,860 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -137 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/54/95.[**Numeric Identifier 218**]//6
   Ve: 7.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   8.6 g/dL
   154 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   59 mg/dL
   96 mEq/L
   137 mEq/L
   24.5 %
   5.7 K/uL
        [image002.jpg]
                            [**2148-11-9**]  11:47 PM
                            [**2148-11-10**]  04:44 AM
                            [**2148-11-10**]  05:14 AM
                            [**2148-11-10**]  01:17 PM
                            [**2148-11-10**]  04:45 PM
                            [**2148-11-10**]  05:07 PM
                            [**2148-11-10**]  05:25 PM
                            [**2148-11-10**]  11:02 PM
                            [**2148-11-11**]  12:27 AM
                            [**2148-11-11**]  06:19 AM
   WBC
   4.4
   5.7
   Hct
   26.0
   25.3
   30
   24.5
   Plt
   62
   50
   Cr
   1.9
   1.7
   TCO2
   33
   35
   33
   35
   36
   35
   Glucose
   154
   Other labs: PT / PTT / INR:13.2/71.4/1.1, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:5763 ng/mL,
   Fibrinogen:1061 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL,
   LDH:3516 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   .
   # [**Location (un) 10939**] Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma.  Poor prognosis at this time.
   - f/u Onc recs
   - f/u Derm recs, as there is an attending familiar with Merckel Cell
   Carcinoma.
   - re-addreswcode status, ?CMO/hospice with family
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   however now with positive influenza screen which could also be
   contributing. ENT consulted, reports sinus opacity on head CT bleed
   rather than infection. Switched famotidine to PPI out of concern for
   drug fever.
   -Continue Oseltamivir, Ramantadine for influenza A
   - f/u blood and urine cultures
   - dc current abx regimen, will start ceftriaxone for gram negative rods
   and gram + cocci in sputum
   -f/u influenza A testing with state lab, ? H1N1
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  However HR has improved with digoxin, amiodarone and
   occasional use of esmolol gtt and pressors.  Refractory afib with
   difficult to control rates may be [**2-19**] pericardial irritation vs.
   inflammatory drive from malignancy; see below for onc management plan,
   also concern for metastatic cancer to myocardium.  Currently in sinus
   following cardioversion, AV node modification and pacer placement, and
   continuation of po Amiodarone.
   - Continue Amiodarone 400mg po bid
   - Continue Norepinephrine; wean as tolerated
   - Digoxin once weekly, 25% of original dose, per EP
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, pt is no longer on
   esmolol
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   briefly on 2 pressors, Levophed and Norsynephrine, currently only on
   Norepinephrine.  Cardiac index WNL and improved with titration of
   esmolol and pressors, currently off Esmolol as pt is back in sinus with
   HR in 90
s-100
   - Continue to monitor cardiac index serially
   -Goal negative 1L
 continue Lasix drip if necessary
   - Continue Amiodarone po
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes
   -Lasix drip for goal -1L today; will f/u I/O later
   -continue statin
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - f/u HIT antibodies
   -guiac stools
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Tolerating ventilator well however requried CMV last night
   for hypoxia.
   -titrate vent settings to ABGs, wean to PSV as tolerated
   -continue abx for now
   .
   # Acute renal failure: Cr trending down from peak 2.8, 2.0 today,
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension.  UOP
   adequate.  No indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - Lasix drip if needed for goal -1L as above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requirements.
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   HF.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Cordis/Introducer - [**2148-11-9**] 04:13 AM
   PA Catheter - [**2148-11-11**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-11 06:31:00 Physician Resident Progress Note
Chief Complaint:
   65 year old male with a history of HTN, hyperlipidemia, and diabetes
   who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   24 Hour Events:
   -required increase in vent settings
   -required extra dose of metoprolol for afib
   -gave 40 lasix for diuresis given elevated CVP
   -started on ceftriaxone for gram negative rods and gram positive cocci
   in sputum, other abx dc'd
   -increased tidal volumes for hypercarbia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2148-11-9**] 03:54 AM
   Ciprofloxacin - [**2148-11-10**] 01:31 AM
   Vancomycin - [**2148-11-10**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 15 mg/hour
   Insulin - Regular - 4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Metoprolol - [**2148-11-11**] 01:47 AM
   Furosemide (Lasix) - [**2148-11-11**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-11**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 140 (83 - 140) bpm
   BP: 101/52(65) {84/41(55) - 115/64(79)} mmHg
   RR: 24 (12 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 140.4 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 17 (10 - 17)mmHg
   PAP: (56 mmHg) / (32 mmHg)
   CO/CI (Fick): (7.9 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 61 - 67
   Total In:
                                                                  3,723 mL
                                                                    875 mL
   PO:
   TF:
                                                                  1,528 mL
                                                                    392 mL
   IVF:
                                                                  1,994 mL
                                                                    484 mL
   Blood products:
   Total out:
                                                                  3,860 mL
                                                                    260 mL
   Urine:
                                                                  3,860 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -137 mL
                                                                    615 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/54/95.[**Numeric Identifier 218**]//6
   Ve: 7.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   GEN: NAD, ventilated/intubated, not response to sternal rub
   CV: RRR, no m/r/g
   PULM: Equal BS b/l with rhonchi on ventilator
   ABD: Soft, NT/ND, diminished but +bs
   EXTR: Dependent edema in Les (2+ LLE, 1+ RLE)
 improved since
   admission
   Labs / Radiology
   50 K/uL
   8.6 g/dL
   154 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   59 mg/dL
   96 mEq/L
   137 mEq/L
   24.5 %
   5.7 K/uL
        [image002.jpg]
                            [**2148-11-9**]  11:47 PM
                            [**2148-11-10**]  04:44 AM
                            [**2148-11-10**]  05:14 AM
                            [**2148-11-10**]  01:17 PM
                            [**2148-11-10**]  04:45 PM
                            [**2148-11-10**]  05:07 PM
                            [**2148-11-10**]  05:25 PM
                            [**2148-11-10**]  11:02 PM
                            [**2148-11-11**]  12:27 AM
                            [**2148-11-11**]  06:19 AM
   WBC
   4.4
   5.7
   Hct
   26.0
   25.3
   30
   24.5
   Plt
   62
   50
   Cr
   1.9
   1.7
   TCO2
   33
   35
   33
   35
   36
   35
   Glucose
   154
   Other labs: PT / PTT / INR:13.2/71.4/1.1, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:5763 ng/mL,
   Fibrinogen:1061 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL,
   LDH:3516 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   .
   # [**Location (un) 10939**] Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma.  Poor prognosis at this time.
   - f/u Onc recs
   - f/u Derm recs, as there is an attending familiar with Merckel Cell
   Carcinoma.
   - re-address code status, ?CMO/hospice with family
   .
   # Fevers: Most likely B-symptoms from lymphoma/malignancy/metastases,
   however now with positive influenza screen which could also be
   contributing. ENT consulted, reports sinus opacity on head CT bleed
   rather than infection. Switched famotidine to PPI out of concern for
   drug fever.
   -Continue Oseltamivir, Ramantadine for influenza A
   - f/u blood and urine cultures
   - d/c current abx regimen, on ceftriaxone for gram negative rods and
   gram + cocci in sputum
   - CXR from [**2148-11-10**] showing ?consolidation at bases; previously with
   white out of left lung, ?mucus plug
   .
   # Atrial fibrillation/flutter with RVR: Believe this has been chronic,
   given dilated LV and decreased EF on echo; believed due to dilation
   from novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  HR has improved with digoxin, amiodarone and occasional
   use of esmolol gtt and pressors.  Refractory afib with difficult to
   control rates may be [**2-19**] pericardial irritation vs. inflammatory drive
   from malignancy; see below for onc management plan, also concern for
   metastatic cancer to myocardium.  Now back in atrial fibrillation
   despite previous sinus following cardioversion, AV node modification
   and pacer placement, and continuation of po Amiodarone.
   - Continue Amiodarone gtt
   - Continue Norepinephrine; wean as tolerated
   - Consider repeat cardioversion once amiodarone load felt to be
   adequate
   - Digoxin once weekly, 25% of original dose, per EP
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, pt is no longer on
   esmolol
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   briefly on 2 pressors, Levophed and Norsynephrine, currently only on
   Norepinephrine.  Cardiac index WNL and improved with titration of
   esmolol and pressors, currently off Esmolol as pt is back in sinus with
   HR in 90
s-120
   - Continue to monitor cardiac index serially
   - Goal negative 1L
 continue Lasix drip if necessary
   - Continue Amiodarone gtt
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes
   -Lasix drip for goal -1L today; will f/u I/O later
   -continue statin
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - f/u HIT antibodies
   - guiac stools
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Required increase in ventilatory support o/n.
   - titrate vent settings to ABGs, wean to PSV as tolerated
   - continue abx for now
   - CXR from [**2148-11-10**] showing ?consolidation at bases; previously with
   white out of left lung, ?mucus plug
   - if febrile, consider broadening Abx coverage again
   .
   # Acute renal failure: Cr trending down from peak 2.8, 2.0 today,
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension.  UOP
   adequate.  No indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - Lasix drip if needed for goal -1L as above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requirements.
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   HF.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 EPISTAXIS (NOSEBLEED)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
 CARDIOMYOPATHY, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Cordis/Introducer - [**2148-11-9**] 04:13 AM
   PA Catheter - [**2148-11-11**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now

2148-11-12 02:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Restarted amio drip in am
   -Spontaneously converted to NSR in AM
   -Given extra 40 IV lasix to try to diurese more, too many obligate ins
   to get very negative even with good UOP
   -No word yet on if Flu is H1N1
   -HIT panel negative
   -Pacer wire pulled
   - went into afib and dropped pressures at 0600 for 20 mins, prior to
   converting back to NSR spontaneously
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2148-11-9**] 03:54 AM
   Ciprofloxacin - [**2148-11-10**] 01:31 AM
   Vancomycin - [**2148-11-10**] 08:00 AM
   Ceftriaxone - [**2148-11-11**] 05:36 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 15 mg/hour
   Amiodarone - 1 mg/min
   Heparin Sodium - 1,550 units/hour
   Insulin - Regular - 8 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2148-11-11**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-12**] 02:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 85 (79 - 140) bpm
   BP: 107/57(70) {84/45(56) - 116/64(77)} mmHg
   RR: 26 (12 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 12 (4 - 17)mmHg
   PAP: (55 mmHg) / (27 mmHg)
   CO/CI (Fick): (10.1 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  4,127 mL
                                                                    524 mL
   PO:
   TF:
                                                                  1,705 mL
                                                                    202 mL
   IVF:
                                                                  2,041 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    500 mL
   Urine:
                                                                  2,420 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   Compliance: 39 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/58/82.[**Numeric Identifier 143**]/31/5
   Ve: 11.5 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GEN: NAD, ventilated/intubated, not response to sternal rub
   CV: RRR, no m/r/g
   PULM: Equal BS b/l with rhonchi on ventilator
   ABD: Soft, NT/ND, diminished but +bs
   EXTR: Dependent edema in Les (2+ LLE, 1+ RLE)
 improved since
   admission
   Labs / Radiology
   58 K/uL
   9.0 g/dL
   163 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   65 mg/dL
   99 mEq/L
   141 mEq/L
   26.0 %
   6.5 K/uL
        [image002.jpg]
                            [**2148-11-10**]  05:14 AM
                            [**2148-11-10**]  01:17 PM
                            [**2148-11-10**]  04:45 PM
                            [**2148-11-10**]  05:07 PM
                            [**2148-11-10**]  05:25 PM
                            [**2148-11-10**]  11:02 PM
                            [**2148-11-11**]  12:27 AM
                            [**2148-11-11**]  05:46 AM
                            [**2148-11-11**]  06:19 AM
                            [**2148-11-11**]  01:09 PM
   WBC
   5.7
   6.5
   Hct
   25.3
   30
   24.5
   26.0
   Plt
   50
   58
   Cr
   1.7
   1.8
   TCO2
   35
   33
   35
   36
   35
   35
   Glucose
   163
   Other labs: PT / PTT / INR:12.8/60.2/1.1, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:5763 ng/mL,
   Fibrinogen:1061 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL,
   LDH:3516 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   .
   # Atrial fibrillation with RVR: Believe this has been chronic, given
   dilated LV and decreased EF on echo; believed due to dilation from
   novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  HR has improved with digoxin, amiodarone and occasional
   use of esmolol gtt and pressors.  Refractory afib with difficult to
   control rates may be [**2-19**] pericardial irritation vs. inflammatory drive
   from malignancy; see below for onc management plan, also concern for
   metastatic cancer to myocardium.  Now back in atrial fibrillation
   despite previous sinus following cardioversion, AV node modification
   and pacer placement, and continuation of po Amiodarone.
   - Continue Amiodarone gtt
   - consider repeat cardioversion if remains in atrial fibrillation with
   24-48 hours of amiodarone / once amiodarone load felt to be adequate
   - Continue Norepinephrine; wean as tolerated
   - Digoxin once weekly, 25% of original dose, per EP
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, pt is no longer on
   esmolol
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes and ARF improves
   -Lasix drip for goal -1L today; will f/u I/O later
   - seems to respond better to 80 mg IV bolus as opposed to gtt.  Will
   try this if UOP slowing off.
   -continue statin
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   briefly on 2 pressors, Levophed and Norsynephrine, currently only on
   Norepinephrine.  Cardiac index WNL and improved with titration of
   pressors. SVR still low at 400.
   - Continue to monitor cardiac index serially
   - Goal negative 1L
 continue Lasix drip if necessary
   - Continue Amiodarone gtt
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Required increase in ventilatory support o/n, but CXR this
   AM improved.
   - titrate vent settings to ABGs, wean to PSV as tolerated
   - continue abx for now
   - CXR from [**2148-11-10**] showing ?consolidation at bases; previously with
   white out of left lung, ?mucus plug, now improved.
   - if febrile, consider broadening Abx coverage again
   .
   # Fevers: likely from positive influenza screen. ENT consulted, reports
   sinus opacity on head CT bleed rather than infection. Switched
   famotidine to PPI out of concern for drug fever.
   -Continue Oseltamivir (d4-5), Ramantadine for influenza A
   - f/u blood and urine cultures as well as influenza H1N1 send out
   - on ceftriaxone for gram negative rods and gram + cocci in sputum
   - CXR from [**2148-11-10**] showing ?consolidation at bases; previously with
   white out of left lung, ?mucus plug, now improved
   .
   # [**Location (un) 10939**] Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma.  Poor prognosis at this time.
   - f/u Onc recs
   - f/u Derm recs, as there is an attending familiar with Merckel Cell
   Carcinoma.
   - re-address code status
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - f/u HIT antibodies, still pending
   - guiac stools
   .
   # Acute renal failure: Cr trending down from peak 2.8, 1.8 today,
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension.  UOP
   adequate.  No indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - Lasix drip if needed for goal -1L as above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requirements.
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   HF.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-11-12**] 12:29 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Cordis/Introducer - [**2148-11-9**] 04:13 AM
   PA Catheter - [**2148-11-11**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-12 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
C - [**2148-11-12**] 06:00 AM
   -Restarted amio drip in am
   -Spontaneously converted to NSR in AM
   -Given extra 40 IV lasix to try to diurese more, too many obligate ins
   to get very negative even with good UOP
   -No word yet on if Flu is H1N1
   -HIT panel negative
   -Pacer wire pulled
   - went into afib and dropped pressures at 0600 for 20 mins, prior to
   converting back to NSR spontaneously
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-11-10**] 01:31 AM
   Vancomycin - [**2148-11-10**] 08:00 AM
   Ceftriaxone - [**2148-11-11**] 05:36 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Heparin Sodium - 1,550 units/hour
   Amiodarone - 1 mg/min
   Insulin - Regular - 8 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2148-11-11**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.6
C (101.5
   HR: 80 (79 - 131) bpm
   BP: 114/58(73) {84/45(56) - 124/65(80)} mmHg
   RR: 20 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 11 (4 - 16)mmHg
   PAP: (57 mmHg) / (25 mmHg)
   CO/CI (Fick): (9.3 L/min) / (3.5 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  4,127 mL
                                                                  1,290 mL
   PO:
   TF:
                                                                  1,705 mL
                                                                    496 mL
   IVF:
                                                                  2,041 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                  1,290 mL
   Urine:
                                                                  2,420 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   Compliance: 39 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/54/109/29/9
   Ve: 11 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: NAD, ventilated/intubated, not response to sternal rub
   CV: RRR, no m/r/g
   PULM: Equal BS b/l with rhonchi on ventilator
   ABD: Soft, NT/ND, diminished but +bs
   EXTR: Dependent edema in Les (2+ LLE, 1+ RLE)
 improved since
   admission
   Labs / Radiology
   55 K/uL
   8.8 g/dL
   134 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   65 mg/dL
   101 mEq/L
   142 mEq/L
   25.4 %
   8.9 K/uL
        [image002.jpg]
                            [**2148-11-10**]  04:45 PM
                            [**2148-11-10**]  05:07 PM
                            [**2148-11-10**]  05:25 PM
                            [**2148-11-10**]  11:02 PM
                            [**2148-11-11**]  12:27 AM
                            [**2148-11-11**]  05:46 AM
                            [**2148-11-11**]  06:19 AM
                            [**2148-11-11**]  01:09 PM
                            [**2148-11-12**]  05:00 AM
                            [**2148-11-12**]  05:06 AM
   WBC
   5.7
   6.5
   8.9
   Hct
   25.3
   30
   24.5
   26.0
   25.4
   Plt
   50
   58
   55
   Cr
   1.7
   1.8
   1.6
   TCO2
   35
   36
   35
   35
   37
   Glucose
   163
   134
   Other labs: PT / PTT / INR:12.8/60.2/1.1, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:5763 ng/mL,
   Fibrinogen:1061 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL,
   LDH:3516 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   .
   # Atrial fibrillation with RVR: Believe this has been chronic, given
   dilated LV and decreased EF on echo; believed due to dilation from
   novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  HR has improved with digoxin, amiodarone and occasional
   use of esmolol gtt and pressors.  Refractory afib with difficult to
   control rates may be [**2-19**] pericardial irritation vs. inflammatory drive
   from malignancy; see below for onc management plan, also concern for
   metastatic cancer to myocardium.  Now back in atrial fibrillation
   despite previous sinus following cardioversion, AV node modification
   and pacer placement, and continuation of po Amiodarone.
   - Continue Amiodarone gtt
   - consider repeat cardioversion if remains in atrial fibrillation with
   24-48 hours of amiodarone / once amiodarone load felt to be adequate
   - Continue Norepinephrine; wean as tolerated
   - Digoxin once weekly, 25% of original dose, per EP
   - Continue Heparin gtt (CHADS score 2; hypertension and DM)
   - IV Metoprolol as needed to rate control in 120
s, pt is no longer on
   esmolol
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes and ARF improves
   -Lasix drip for goal -1L today; will f/u I/O later
   - seems to respond better to 80 mg IV bolus as opposed to gtt., will
   given PRN IV bolus to keep UOP
   -continue statin
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   briefly on 2 pressors, Levophed and Norsynephrine, currently only on
   Norepinephrine.  Cardiac index WNL and improved with titration of
   pressors. SVR still low at 400.
   - Continue to monitor cardiac index serially
   - Goal negative 1L
 continue Lasix drip if necessary
   - Continue Amiodarone gtt
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Required increase in ventilatory support o/n, but CXR this
   AM improved.
   - titrate vent settings to ABGs, wean to PSV as tolerated
   - continue abx for now
   - f/u CXR from [**2148-11-10**] showing ?consolidation at bases; previously
   with white out of left lung, ?mucus plug, now improved.
   .
   # Fevers: likely from positive influenza screen. ENT consulted, reports
   sinus opacity on head CT bleed rather than infection. Switched
   famotidine to PPI out of concern for drug fever.
   -Continue Oseltamivir (d4-5), Ramantadine for influenza A
   - f/u blood and urine cultures as well as influenza H1N1 send out
   - repeat bcx, ucx, culture from line, consider broadening abx if
   continue to be febrile.
   - on ceftriaxone for gram negative rods and gram + cocci in sputum
   - CXR from [**2148-11-10**] showing ?consolidation at bases; previously with
   white out of left lung, ?mucus plug, now improved
   .
   # [**Location (un) 10939**] Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma.  Poor prognosis at this time.
   - f/u Onc recs
   - f/u Derm recs, as there is an attending familiar with Merckel Cell
   Carcinoma.
   - re-address code status
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - f/u HIT antibodies, still pending
   - guiac stools
   - f/u DIC labs
   .
   # Acute renal failure: Cr trending down from peak 2.8, 1.8 today,
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension.  UOP
   adequate.  No indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - Lasix drip if needed for goal -1L as above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requirements.
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   HF.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-11-12**] 12:29 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Cordis/Introducer - [**2148-11-9**] 04:13 AM
   PA Catheter - [**2148-11-11**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-13 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - attempted to wean sedation but patient became agitated and went back
   into AF [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1427**], [**First Name3 (LF) **] sedation was restarted
   - pushed IV metoprolol 2.5 x 2 with mild decrease in HR but no breaking
   of [**Name (NI) 1427**]
   - pt has converted back and forth
   - patient continued to spike fevers; per ID recs, switched from CTX -->
   CTZ + vanc + cipro for broader coverage of VAP (i.e. MRSA/Pseudomonas)
   - Cordis was pulled and BCx were sent from central line + culture tip
   of pulled Cordis
   - pt found to have asymmetric pupils on exam this AM, sent for CT
   head.  CT head showed hyperdense lesions worrisome for bleeding vs.
   metastasis in the cerebellum with no appreciable mass effect.  Mild SDH
   also noted.  NSGY was consulted; recommended MRI to better assess
   lesions.  Also advised repeat CT scan in a couple days to reassess
   bleeds; reconsider earlier scan if clinical scenario demands it.
   Heparin was discontinued.
   - nurse noted hard nonfixed subcutaneous mass on R arm (above elbow).
   Non-fluctuant, no transmitted pulses on exam; nurse is fairly certain
   this first appeared today.  No h/o sticks, IVs at that location.
   Continue to assess.
   - Patient remained persistently fluid positive despite lasix gtt @ 10
   cc/hr + IV boluses (first 80, followed by 100, followed by 100 +
   diuril).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-11-11**] 05:36 PM
   Vancomycin - [**2148-11-12**] 09:00 PM
   Ceftazidime - [**2148-11-13**] 12:44 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Amiodarone - 1 mg/min
   Furosemide (Lasix) - 15 mg/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-11-12**] 09:00 AM
   Metoprolol - [**2148-11-12**] 04:49 PM
   Furosemide (Lasix) - [**2148-11-13**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-13**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 39.9
C (103.8
   HR: 120 (85 - 158) bpm
   BP: 108/58(72) {79/42(54) - 120/68(82)} mmHg
   RR: 13 (13 - 54) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 139 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 16 (10 - 18)mmHg
   PAP: (47 mmHg) / (27 mmHg)
   CO/CI (Fick): (9.6 L/min) / (3.7 L/min/m2)
   Mixed Venous O2% Sat: 67 - 67
   Total In:
                                                                  4,632 mL
                                                                  1,190 mL
   PO:
   TF:
                                                                  1,628 mL
                                                                    499 mL
   IVF:
                                                                  2,554 mL
                                                                    691 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                  1,615 mL
   Urine:
                                                                  3,550 mL
                                                                  1,615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,082 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (0 - 600) mL
   Vt (Spontaneous): 417 (417 - 417) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/56/117/31/7
   Ve: 11 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   8.8 g/dL
   103 mg/dL
   2.0 mg/dL
   31 mEq/L
   3.9 mEq/L
   80 mg/dL
   99 mEq/L
   141 mEq/L
   25.2 %
   12.1 K/uL
        [image002.jpg]
                            [**2148-11-11**]  05:46 AM
                            [**2148-11-11**]  06:19 AM
                            [**2148-11-11**]  01:09 PM
                            [**2148-11-12**]  05:00 AM
                            [**2148-11-12**]  05:06 AM
                            [**2148-11-12**]  03:19 PM
                            [**2148-11-12**]  03:48 PM
                            [**2148-11-13**]  01:30 AM
                            [**2148-11-13**]  04:46 AM
                            [**2148-11-13**]  05:40 AM
   WBC
   6.5
   8.9
   12.1
   Hct
   26.0
   25.4
   25.2
   Plt
   58
   55
   61
   Cr
   1.8
   1.6
   1.9
   2.0
   2.0
   TCO2
   35
   35
   37
   35
   36
   Glucose
   163
   134
   97
   133
   103
   Other labs: PT / PTT / INR:14.6/40.4/1.3, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 11045**] ng/mL,
   Fibrinogen:957 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:58
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with [**Numeric Identifier 1427**] and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   .
   # Atrial fibrillation with [**Location (un) 1427**]: Believe this has been chronic, given
   dilated LV and decreased EF on echo; believed due to dilation from
   novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  HR first improved with digoxin, amiodarone and
   occasional use of esmolol gtt and pressors.  Refractory afib with
   difficult to control rates may be [**2-19**] pericardial irritation vs.
   inflammatory drive from malignancy; see below for onc management plan,
   also concern for metastatic cancer to myocardium.  Now back in atrial
   fibrillation despite previous sinus following cardioversion, AV node
   modification and pacer placement, and continuation of po Amiodarone.
   - continue Amiodarone gtt
   - consider repeat cardioversion if remains in atrial fibrillation with
   24-48 hours of amiodarone / once amiodarone load felt to be adequate
   - continue Norepinephrine; wean as tolerated
   - Digoxin once weekly, 25% of original dose, per EP
   - heparin gtt stopped [**2-19**] CT head findings (CHADS score 2; hypertension
   and DM)
   - IV Metoprolol as needed to rate control in 120
s, pt is no longer on
   esmolol
   .
   # intracranial bleeds
 Patient was found to have asymmetric pupils on
   exam and received CT head c contrast [**11-12**].  This showed no lesion
   worrisome for mass effect, but two new lesions (R frontal, R
   cerebellar) were noted worrisome for metastasis vs. intraparenchymal
   hemorrhage in comparison to prior CT head one week ago.  NSGY was
   consulted and agreed with plan to d/c heparin gtt.
   -          heparin gtt d/ced
   -          MRI head w&w/o contrast to better assess etiology of lesions
   -          Consider repeat CT scan in several days to reassess
   bleeding, or earlier if clinical situation warrants.
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.  Appears to have significant diuretic resistance.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes and ARF improves
   - Lasix drip +/- bolus + diuril for goal -1L today; will f/u I/O
   - continue statin
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with [**Month/Day (2) 1427**] and/or infection/sepsis,
   briefly on 2 pressors, currently only on norepinephrine.  Cardiac index
   WNL and improved with titration of pressors. SVR still low at 459.
   Worrisome for mixed cardiogenic / distributive shock picture.
   - Continue to monitor cardiac index serially
   - Goal negative 1L.
   - Continue Amiodarone gtt
   .
   # Respiratory failure: Intubated on [**11-4**]/9 for increased work of
   breathing. Required increase in ventilatory support o/n, but CXR this
   AM improved.
   - titrate vent settings to ABGs, wean to PSV as tolerated
   - Appreciate ID recs; switched from CTX
 vanc + CTZ + ciprofloxacin
   empirically for now.
   .
   # Fevers: likely from positive influenza screen.  Switched famotidine
   to PPI out of concern for drug fever.
   -Continue Oseltamivir (d4-5), Ramantadine for influenza A
   - f/u blood and urine cultures as well as influenza H1N1 send out
   - repeat BCx, UCx, culture from line, consider broadening abx if
   continue to be febrile.
   - on CTZ, vanc, cipro per ID recs
   - CXR from [**2148-11-12**] showing worsened R lung infiltrates, improved L
   lung aeration
   .
   # [**Location (un) 10939**] Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma.  Poor prognosis at this time.
   - f/u Onc recs
   - f/u Derm recs, as there is an attending familiar with [**Location (un) 10939**] Cell
   Carcinoma.
   - re-address code status
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - HIT antibodies negative
   - guaiac stools
   .
   # Acute renal failure: Cr trending down from peak 2.8, 2.0 today,
   baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension.  UOP
   adequate.  No indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - diuresis as discussed above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requirements.
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   HF.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable.
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-11-12**] 08:14 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-14 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2148-11-14**]
   -MRI showed multpile enhancing lesions consistent with extracerebral
   mets
   [**2148-11-13**]
   - CT head final read: 1. New very small hyperdense focus in the right
   frontal area, New or more conspicuous hypodensity in the right
   cerebellar area (subdural hemorrhage versus new metastasis). Persistent
   extra-axial nodule anteriorly overlying the anterior right frontal
   lobe.  followup CT to assess for stability or progression.
   2. Progressed opacification of mastoid air cells and right maxillary
   sinus without bony destruction that may relate to intubation.
   NOTE ADDED IN ATTENDING REVIEW: There is now a definite blood/fluid
   level, layering within a 14mm (AP) likely extra-axial collection, in
   the region of the right frontal operculum (2:18), suggesting evolving
   hemorrhage. Its relation to the more anteriorly-located well-defined
   hyperdense focus is unclear. The additional focus, along the right
   lateral aspect of the tentorium cerebelli, level of the ambient
   cistern, was not clearly present and also may represent evolving
   hemorrhage.
   - Derm expert: [**First Name8 (NamePattern2) 3869**] [**Last Name (NamePattern1) 575**] - contact[**Name (NI) **] via email need to follow up on
   her input.
   - EP: continue amio.
   - heme/onc: abd. bx also showed [**Last Name (un) 11089**] cell
   - Neurosx: MRI of head done need to follow up final read.
   - ID: continue abx, groin line grew coag - staph, GNR in sputum (mic
   pending).
   - output approx. -1L at 4pm, responding to mitzlozone and lasix combo,
   repeated IV lasix 100mg.
   - in and out out of AFib throughout the night, received amio 150mg x1,
   metoprolol 5mg x3, was placed on vasopressin. (70/40 durring)
   - Fever to 104.5 - Ucx, Bcx, sputum Cx were sent
   - swan ganz was removed prior to MRI, Triple lumen was placed in the
   cordis as a temporary measure.  Swan Ganz needs to be replaced.
   - question if contrast induced nephropathy.
   - new lactate(2.8) in am ABG.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-11-11**] 05:36 PM
   Vancomycin - [**2148-11-13**] 11:45 PM
   Ciprofloxacin - [**2148-11-14**] 12:00 AM
   Ceftazidime - [**2148-11-14**] 12:50 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Insulin - Regular - 24 units/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.34 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2148-11-13**] 08:15 AM
   Furosemide (Lasix) - [**2148-11-13**] 04:30 PM
   Metoprolol - [**2148-11-14**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-14**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.5
   Tcurrent: 37.4
C (99.4
   HR: 67 (67 - 158) bpm
   BP: 125/57(74) {79/43(54) - 149/65(84)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 139 kg (admission): 141 kg
   Height: 74 Inch
    CVP: 12 (7 - 13)mmHg
   PAP: (55 mmHg) / (29 mmHg)
   Total In:
                                                                  4,434 mL
                                                                  1,175 mL
   PO:
   TF:
                                                                  1,305 mL
                                                                    300 mL
   IVF:
                                                                  2,829 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                  5,725 mL
                                                                  1,010 mL
   Urine:
                                                                  5,725 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,291 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/58/81.[**Numeric Identifier 218**]/31/5
   Ve: 10.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen:  Arousable to noxious stimuli, suctioning,  eyelid opening.  Not
   responding to family, not responding to name
   HEENT:  Eyes closed, pupils reactive to light.  MMM
   CV:  Tachycardic irregular unable to assess for murmur
   Pulm: Extremely ronchorous on lateral lung field auscultation
   Abd: Soft, distended/obese. BS +
   Ext: non-pitting, edematous, 2+ DP pulses, warm
   Labs / Radiology
   58 K/uL
   8.6 g/dL
   261 mg/dL
   2.4 mg/dL
   31 mEq/L
   3.5 mEq/L
   105 mg/dL
   93 mEq/L
   138 mEq/L
   25.0 %
   11.6 K/uL
        [image002.jpg]
                            [**2148-11-12**]  05:06 AM
                            [**2148-11-12**]  03:19 PM
                            [**2148-11-12**]  03:48 PM
                            [**2148-11-13**]  01:30 AM
                            [**2148-11-13**]  04:46 AM
                            [**2148-11-13**]  05:40 AM
                            [**2148-11-13**]  05:32 PM
                            [**2148-11-13**]  05:44 PM
                            [**2148-11-14**]  04:30 AM
                            [**2148-11-14**]  04:49 AM
   WBC
   12.1
   11.6
   Hct
   25.2
   25.0
   Plt
   61
   58
   Cr
   1.9
   2.0
   2.0
   2.2
   2.4
   TCO2
   37
   35
   36
   38
   35
   Glucose
   97
   133
   103
   112
   261
   Other labs: PT / PTT / INR:15.2/30.3/1.3, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 11045**] ng/mL,
   Fibrinogen:957 mg/dL, Lactic Acid:2.8 mmol/L, Albumin:2.5 g/dL, LDH:58
   IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   .
   # Atrial fibrillation with RVR: Believe this has been chronic, given
   dilated LV and decreased EF on echo; believed due to dilation from
   novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  HR first improved with digoxin, amiodarone and
   occasional use of esmolol gtt and pressors.  Refractory afib with
   difficult to control rates may be [**2-19**] pericardial irritation vs.
   inflammatory drive from malignancy; see below for onc management plan,
   also concern for metastatic cancer to myocardium.  Now back in atrial
   fibrillation despite previous sinus following cardioversion, AV node
   modification and pacer placement, and continuation of po Amiodarone.
   - continue Amiodarone gtt @1mg/min; as per EP
   - consider repeat cardioversion if patient is in atrial flutter, DNR if
   for instability
   - digoxin once weekly, 25% of original dose, per EP
   - heparin gtt stopped [**2-19**] CT head findings (CHADS score 2; hypertension
   and DM)
   - IV Metoprolol as needed to rate control in 120
   .
   # intracranial bleeds
 Patient was found to have asymmetric pupils on
   exam and received CT head c contrast [**11-12**].  This showed no lesion
   worrisome for mass effect, but two new lesions (R frontal, R
   cerebellar) were noted worrisome for metastasis vs. intraparenchymal
   hemorrhage in comparison to prior CT head one week ago.  NSGY was
   consulted and agreed with plan to d/c heparin gtt. (attending addendum
   to CT read) There is now a definite blood/fluid level, layering within
   a 14mm (AP) likely extra-axial collection, in the region of the right
   frontal operculum (2:18), suggesting evolving hemorrhage. Its relation
   to the more anteriorly-located well-defined hyperdense focus is
   unclear. The additional focus, along the right lateral aspect of the
   tentorium cerebelli, level of the ambient cistern, was not clearly
   present and also may represent evolving hemorrhage.
   -          heparin gtt d/ced
   -          MRI head c/w single punctuate hemorrhage, unclear as to
   relationship to mets which are not intraparenchymal
   -          Consider repeat CT scan in several days to reassess
   bleeding, or earlier if clinical situation warrants.
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.  Appears to have significant diuretic resistance.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes and ARF improves
   - Given inability to maintain BP, will hold off on diuresis today.
   - continue statin
   - replace swan today pending family discussion of CMO
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   currently only on norepinephrine and vasopressin.  Cardiac index
   unattained when swan was removed, last CVP was elevated as well as
   pulmonary artery pressure .  Worrisome for mixed cardiogenic /
   distributive shock picture.
   - Continue to monitor cardiac index serially once swan replaced
   - Patient self diuresing currently, will hold off on diuretics until
   ARF resolves/improves
   - Continue Amiodarone gtt
   - Norepinephrine
   - continue Vasopressin as needed
   .
   # Respiratory failure: Intubated on [**2148-11-4**] for increased work of
   breathing. Ventilatory support settings stable for days
   - titrate vent settings to ABGs, wean to PSV as tolerated
   - Appreciate ID recs; switched from CTX
 vanc + CTZ + ciprofloxacin
   empirically for now.
   - await H1N1 results from government lab
   .
   # Fevers: (104.5 overnight) likely from influenza vs Merkell.  Switched
   famotidine to PPI out of concern for drug fever.
   -Continue Oseltamivir, Ramantadine for influenza A
   - f/u blood and urine cultures as well as influenza H1N1 send out
   - repeat BCx, UCx, culture from line, consider broadening abx if
   continue to be febrile.
   - would hold off on further cultures for lower grade fevers as all have
   been negative
   - on CTZ, vanc, cipro per ID recs
   - CXR from [**2148-11-12**] showing worsened R lung infiltrates, improved L
   lung aeration
   .
   # [**Location (un) 10939**] Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma, MRI showing cranial and dural mets.  Poor
   prognosis at this time.
   - f/u Onc, expert recs
   - f/u Derm recs, as there is an attending familiar with [**Location (un) 10939**] Cell
   Carcinoma (await email response.)
   - DNR/DNI, family meeting re: CMO pending
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - holding off until results of family meeting
   - HIT antibodies negative
   - guaiac stools
   .
   # Acute renal failure: Cr trending down from peak 2.8, 2.4 today up
   from 2.0, baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension
   ?contribution of diuresis.  UOP adequate.  No indications for dialysis
   at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - diuresis as discussed above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   No intracerebral mets on MRI, cranial and dural involvement noted.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requirements.
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   HF.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable though impossible to assess given mental status
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2148-11-13**] 04:40 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Cordis/Introducer - [**2148-11-13**] 07:40 PM
   Multi Lumen - [**2148-11-13**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-15 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 104.7
F - [**2148-11-14**] 08:00 PM
   -Pt repeatedly drops his SBP into the 40's if levophed is stopped for
   even the slightest amount of time
   -MRI results show multiple dural, and subgaleal mets, a sphenoid met, a
   mass encasing the right internal carotid, and possibly a cavernous
   sinus met.  No intraparenchymal disease
   -Family met and made patient DNR/DNI, discussing with paliative care,
   may decide on CMO
   -Ionized calcium came back at 1.00 and was repleted
   -On dopa now and off vaso, more stable
   -Still spiking temps, to 104, on cooling blanket
   -Stopped tolerating tube feeds, OGT changed to suction, changed cipro
   to IV, ASA to PR
   -Insulin gtt needs drastically reduced
   -Essentially he's shutting down
   -HR faster overnight after briefly being off dopa, 160's-170s, given
   5mg IV metoprolol x2 with improvement
   -resp status worsened with worsening hypoxia, increased PEEP to 12,
   FIO2 to 60%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-11-14**] 05:00 PM
   Vancomycin - [**2148-11-14**] 08:45 PM
   Ciprofloxacin - [**2148-11-14**] 10:00 PM
   Ceftazidime - [**2148-11-15**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Insulin - Regular - 6 units/hour
   Dopamine - 3 mcg/Kg/min
   Amiodarone - 1 mg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2148-11-14**] 08:08 AM
   Furosemide (Lasix) - [**2148-11-14**] 09:35 PM
   Metoprolol - [**2148-11-15**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-15**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.4
C (104.7
   Tcurrent: 37.4
C (99.3
   HR: 149 (100 - 156) bpm
   BP: 100/62(74) {67/38(56) - 135/75(92)} mmHg
   RR: 20 (17 - 49) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 139 kg (admission): 141 kg
   Height: 74 Inch
             Total In:
                                                                  5,139 mL
                                                                  1,195 mL
   PO:
             TF:
                                                                    863 mL
   IVF:
                                                                  3,916 mL
                                                                  1,175 mL
   Blood products:
   Total out:
                                                                  3,860 mL
                                                                  1,310 mL
   Urine:
                                                                  3,420 mL
                                                                    810 mL
   NG:
                                                                    440 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  1,279 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/49/110/30/6
   Ve: 13.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen:  Arousable to noxious stimuli, suctioning,  eyelid opening.  Not
   responding to family, not responding to name
   HEENT:  Eyes closed, pupils reactive to light.  MMM
   CV:  Tachycardic irregular unable to assess for murmur
   Pulm: Extremely ronchorous on lateral lung field auscultation
   Abd: Soft, distended/obese. BS +
   Ext: non-pitting, edematous, 2+ DP pulses, warm
   Labs / Radiology
   59 K/uL
   8.8 g/dL
   278 mg/dL
   2.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   110 mg/dL
   93 mEq/L
   136 mEq/L
   25.1 %
   12.8 K/uL
        [image002.jpg]
                            [**2148-11-14**]  04:30 AM
                            [**2148-11-14**]  04:49 AM
                            [**2148-11-14**]  06:17 AM
                            [**2148-11-14**]  11:58 AM
                            [**2148-11-14**]  06:05 PM
                            [**2148-11-14**]  06:30 PM
                            [**2148-11-14**]  09:17 PM
                            [**2148-11-15**]  02:05 AM
                            [**2148-11-15**]  02:12 AM
                            [**2148-11-15**]  06:12 AM
   WBC
   11.6
   12.8
   Hct
   25.0
   25.1
   Plt
   58
   59
   Cr
   2.4
   2.3
   2.4
   TCO2
   35
   36
   33
   33
   30
   34
   34
   Glucose
   261
   135
   278
   Other labs: PT / PTT / INR:16.6/28.8/1.5, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:52/93, Alk Phos / T Bili:152/0.7,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 11045**] ng/mL,
   Fibrinogen:957 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:58
   IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   This is a 65 year old male with a history of HTN, hyperlipidemia, and
   diabetes who presents with approximately 1 week of malaise, dry cough,
   increasing dyspnea and found to be in new-onset A.fib with RVR and
   markedly decreased EF with dilated LV, now s/p cardioversion x8, now
   with new [**Location (un) 10939**] cell carcinoma diagnosis.
   .
   # Atrial fibrillation with RVR: Believe this has been chronic, given
   dilated LV and decreased EF on echo; believed due to dilation from
   novel cardiomyopathy. He has not responded to multiple attempts at
   cardioversion.  HR first improved with digoxin, amiodarone and
   occasional use of esmolol gtt and pressors.  Refractory afib with
   difficult to control rates may be [**2-19**] pericardial irritation vs.
   inflammatory drive from malignancy; see below for onc management plan,
   also concern for metastatic cancer to myocardium.  Now back in atrial
   fibrillation despite previous sinus following cardioversion, AV node
   modification and pacer placement, and continuation of po Amiodarone.
   - continue Amiodarone gtt @1mg/min; as per EP
   - consider repeat cardioversion if patient is in atrial flutter, DNR if
   for instability
   - digoxin once weekly, 25% of original dose, per EP
   - heparin gtt stopped [**2-19**] CT head findings (CHADS score 2; hypertension
   and DM)
   - IV Metoprolol as needed to rate control in 120
   .
   # intracranial bleeds
 Patient was found to have asymmetric pupils on
   exam and received CT head c contrast [**11-12**].  This showed no lesion
   worrisome for mass effect, but two new lesions (R frontal, R
   cerebellar) were noted worrisome for metastasis vs. intraparenchymal
   hemorrhage in comparison to prior CT head one week ago.  NSGY was
   consulted and agreed with plan to d/c heparin gtt. (attending addendum
   to CT read) There is now a definite blood/fluid level, layering within
   a 14mm (AP) likely extra-axial collection, in the region of the right
   frontal operculum (2:18), suggesting evolving hemorrhage. Its relation
   to the more anteriorly-located well-defined hyperdense focus is
   unclear. The additional focus, along the right lateral aspect of the
   tentorium cerebelli, level of the ambient cistern, was not clearly
   present and also may represent evolving hemorrhage.
   -          heparin gtt d/ced
   -          MRI head c/w single punctuate hemorrhage, unclear as to
   relationship to mets which are not intraparenchymal
   -          Consider repeat CT scan in several days to reassess
   bleeding, or earlier if clinical situation warrants.
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.  Appears to have significant diuretic resistance.
   - monitor I
s & O
s and cardiac index, titrate diuresis to CVP
   - ACE/BB once BP stabilizes and ARF improves
   - Given inability to maintain BP, will hold off on diuresis today.
   - continue statin
   - replace swan today pending family discussion of CMO
   .
   # Hypotension/Shock:  Likely [**2-19**] Afib with RVR and/or infection/sepsis,
   currently only on norepinephrine and vasopressin.  Cardiac index
   unattained when swan was removed, last CVP was elevated as well as
   pulmonary artery pressure .  Worrisome for mixed cardiogenic /
   distributive shock picture.
   - Continue to monitor cardiac index serially once swan replaced
   - Patient self diuresing currently, will hold off on diuretics until
   ARF resolves/improves
   - Continue Amiodarone gtt
   - Norepinephrine
   - continue Vasopressin as needed
   .
   # Respiratory failure: Intubated on [**2148-11-4**] for increased work of
   breathing. Ventilatory support settings stable for days
   - titrate vent settings to ABGs, wean to PSV as tolerated
   - Appreciate ID recs; switched from CTX
 vanc + CTZ + ciprofloxacin
   empirically for now.
   - await H1N1 results from government lab
   .
   # Fevers: (104.5 overnight) likely from influenza vs Merkell.  Switched
   famotidine to PPI out of concern for drug fever.
   -Continue Oseltamivir, Ramantadine for influenza A
   - f/u blood and urine cultures as well as influenza H1N1 send out
   - repeat BCx, UCx, culture from line, consider broadening abx if
   continue to be febrile.
   - would hold off on further cultures for lower grade fevers as all have
   been negative
   - on CTZ, vanc, cipro per ID recs
   - CXR from [**2148-11-12**] showing worsened R lung infiltrates, improved L
   lung aeration
   .
   # [**Location (un) 10939**] Cell Carcinoma: Elevated LDH and finding of R axillary
   lymphadenopathy, CT torso showed c/w malignancy, biopsy consistent with
   Merckel Cell Carcinoma, MRI showing cranial and dural mets.  Poor
   prognosis at this time.
   - f/u Onc, expert recs
   - f/u Derm recs, as there is an attending familiar with [**Location (un) 10939**] Cell
   Carcinoma (await email response.)
   - DNR/DNI, family meeting re: CMO pending
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - holding off until results of family meeting
   - HIT antibodies negative
   - guaiac stools
   .
   # Acute renal failure: Cr trending down from peak 2.8, 2.4 today up
   from 2.0, baseline 1.1.  Likely [**2-19**] hypoperfusion given hypotension
   ?contribution of diuresis.  UOP adequate.  No indications for dialysis
   at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - diuresis as discussed above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
   .
   # Neurologic changes:  Concern for metastasis of malignancy affecting
   CNS vs. thormboembolic event given a fib, particularly given recent
   L-sided extremity weakness and confusion.   CT head negative for acute
   event, but significant for mass suggestive of metastatic malignancy.
   No intracerebral mets on MRI, cranial and dural involvement noted.
   Mental status not improved today.  Unclear prognosis at this time given
   sedation requirements.
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   HF.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable though impossible to assess given mental status
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Cordis/Introducer - [**2148-11-13**] 07:40 PM
   Multi Lumen - [**2148-11-13**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-11-16 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family is still thinking about CMO, wants another night to sleep on
   the decision
   - per H/O, given MRI findings patient likely has days to live
   - continues to spike fevers to 104, likely due to cancer
   - remains in AF c RVR with HR 140s-180s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-11-14**] 10:00 PM
   Ceftazidime - [**2148-11-15**] 12:00 AM
   Vancomycin - [**2148-11-15**] 09:11 AM
   Ceftriaxone - [**2148-11-15**] 04:32 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Dopamine - 6 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Amiodarone - 1 mg/min
   Norepinephrine
 0.5mcg/kg/min
   Other ICU medications:
   Metoprolol - [**2148-11-15**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-16**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.6
   Tcurrent: 37.7
C (99.8
   HR: 131 (96 - 183) bpm
   BP: 110/54(68) {81/42(53) - 148/76(95)} mmHg
   RR: 21 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 139 kg (admission): 141 kg
   Height: 74 Inch
             Total In:
                                                                  3,834 mL
                                                                    687 mL
   PO:
             TF:
   IVF:
                                                                  3,754 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                  2,560 mL
   Urine:
                                                                  1,830 mL
                                                                  1,460 mL
   NG:
                                                                  1,150 mL
                                                                  1,100 mL
   Stool:
   Drains:
   Balance:
                                                                    854 mL
                                                                 -1,873 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 12.2 L/min
   Physical Examination
   Gen:  Arousable to noxious stimuli, suctioning, eyelid opening.  Not
   responding to family, not responding to name
   HEENT:  Eyes closed, left pupil larger than right, right is pinpoint,
   both are minimally reactive to light.  MMM
   CV:  Tachycardic irregularly irregular unable to assess for murmur
   Pulm: Extremely rhonchorous on lateral and anterior lung field
   auscultation
   Abd: Soft, distended/obese. Hypoactive bowel sounds
   Ext: non-pitting, edematous, 2+ DP pulses, cool
   Labs / Radiology
   74 K/uL
   8.5 g/dL
   93 mg/dL
   2.5 mg/dL
   33 mEq/L
   3.5 mEq/L
   117 mg/dL
   91 mEq/L
   134 mEq/L
   24.2 %
   12.0 K/uL
         [image002.jpg]
                            [**2148-11-14**]  04:49 AM
                            [**2148-11-14**]  06:17 AM
                            [**2148-11-14**]  11:58 AM
                            [**2148-11-14**]  06:05 PM
                            [**2148-11-14**]  06:30 PM
                            [**2148-11-14**]  09:17 PM
                            [**2148-11-15**]  02:05 AM
                            [**2148-11-15**]  02:12 AM
                            [**2148-11-15**]  06:12 AM
                            [**2148-11-16**]  12:03 AM
   WBC
   12.8
   12.0
   Hct
   25.1
   24.2
   Plt
   59
   74
   Cr
   2.3
   2.4
   2.5
   TCO2
   35
   36
   33
   33
   30
   34
   34
   Glucose
   135
   278
   93
   Other labs: PT / PTT / INR:16.6/28.8/1.5, CK / CKMB /
   Troponin-T:68/7/0.06, ALT / AST:71/109, Alk Phos / T Bili:213/1.0,
   Amylase / Lipase:59/, Differential-Neuts:67.0 %, Band:11.0 %,
   Lymph:16.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 11045**] ng/mL,
   Fibrinogen:957 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.5 g/dL,
   LDH:4210 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   65 year old man with htn, dm, hl, admitted with new onset rapid atrial
   fibrillation and severe cardiomyopathy (EF 20%). Status post 10
   attempts at cardioversion, loaded with Amiodarone with recurrent
   Afib/flutter & rapid ventricular response, found to have influenza A,
   on treatment dose oseltamivir.  New diagnosis of Merckel cell cancer
   confirmed by pathology, too unstable to receive chemotherapy for
   palliative treatment.
   # Hypotension/Shock:  Mixed cardiogenic and distributive picture.
   Likely [**2-19**] Afib with RVR, cardiomyopathy, metastatic carcinoma and/or
   infection/sepsis from influenza A, currently only on norepinephrine and
   dopamine, did not tolerate vasopressin.  Swan has been removed.
   - Continue pressor support
   - Continue Amiodarone gtt and digoxin
   - continue to treat infectious process with antibiotics as below
   .
   # Atrial fibrillation with RVR:  Unresponsive to multiple attempts at
   cardioversion, likely secondary to increased sympathetic tone from both
   [**Location (un) 10939**] cell carcinoma and influenza A.  The patient likely has a
   dilated cardiomyopathy that is either secondary to or worsened by the
   tachycardia.  The patient is intermittently in sinus rhythm continued
   on amiodarone gtt @1mg/min following large IV load.  The patient is s/p
   AVJ modification with some improvement in amount of time in sinus.
   - continue amiodoarone and digoxin once weekly, 25% of original dose,
   per EP
   - heparin gtt stopped [**2-19**] CT head findings (CHADS score 2; hypertension
   and DM)
   - IV Metoprolol as needed to rate control in 120
   .
   # Intracranial bleeds/Neurologic status
 CT head c contrast [**11-12**]
   showed no lesion worrisome for mass effect, but two new lesions (R
   frontal, R cerebellar) were noted worrisome for metastasis vs.
   intraparenchymal hemorrhage in comparison to prior CT head one week
   ago.  NSGY was consulted and agreed with plan to d/c heparin gtt.
   (attending addendum to CT read) There is now a definite blood/fluid
   level, layering within a 14mm (AP) likely extra-axial collection, in
   the region of the right frontal operculum (2:18), suggesting evolving
   hemorrhage. Its relation to the more anteriorly-located well-defined
   hyperdense focus is unclear. The additional focus, along the right
   lateral aspect of the tentorium cerebelli, level of the ambient
   cistern, was not clearly present and also may represent evolving
   hemorrhage.
   - heparin gtt d/ced
   - MRI head c/w single punctuate hemorrhage, unclear as to relationship
   to mets which are not intraparenchymal
   - Consider repeat CT scan in several days to reassess bleeding, or
   earlier if clinical situation warrants.
   .
   # Cardiomyopathy: New-found EF of 20% with globally dilated RV.  Most
   likely tachycardia induced.  Was diuresed on Lasix drip initially, now
   monitoring central pressures with swan, currently volume overloaded but
   CVP WNL.  Appears to have significant diuretic resistance.
   - monitor I
s & O
s, titrate diuresis to CVP
   - Given inability to maintain BP, will hold off on diuresis today.
   - continue statin
   - replace swan today pending family discussion of CMO
   .
   # Respiratory failure: Intubated on [**2148-11-4**] for increased work of
   breathing. Ventilatory support settings stable for days, but appears to
   becoming more hypoxic, unclear reason.  Likely secondary to volume
   overload, pneumonia and ARDS.
   - CXR this AM
   - titrate vent settings to ABGs, wean to CPAP as tolerated
   - Appreciate ID recs; switched from CTX
 vanc + CTZ + ciprofloxacin
   empirically for now.
   - await H1N1 results from government lab
   .
   # Fevers: (104.7 overnight) likely from influenza vs [**Location (un) 10939**] or related
   to suprainfection of pneumonia with gram negative rods in endotracheal
   suctioning.  Switched famotidine to PPI out of concern for drug fever.
   -Continue Oseltamivir, Ramantadine for influenza A
   - Continue ceftaz, cipro and vanc for HAP or VAP given GNRs in sputum
   - f/u blood and urine cultures as well as influenza H1N1 send out
   -F/U CXR from today
   .
   # [**Location (un) 10939**] Cell Carcinoma:  Initially diagnosed by elevated LDH and R
   axillary lymphadenopathy.  Imaging confirmed multiple nodules and
   intracranial/dural mets.  Pathology consistent with [**Location (un) 10939**] Cell
   Carcinoma, ie cutaneous neuroendocrine tumor.  Poor prognosis at this
   time per dermatology and oncology.
   - f/u Onc and derm recs, Dr. [**First Name8 (NamePattern2) 3869**] [**Last Name (NamePattern1) 575**] recs
 likely no chemotherapy
   at this time
   .
   # Anemia/Thrombocytopenia: Crit stable, s/p transfusion.  Labs not
   concerning for DIC at this time.
   - Daily crit, transfuse for <25.
   - HIT antibodies negative
   - guaiac stools
   .
   # Acute renal failure:  Crn stable at 2.4 today, likely secondary to
   poor forward flow from hypotension/shock.  UOP adequate.  No
   indications for dialysis at this time.
   - Monitor [**Hospital1 **] electrolytes
   - follow UOP
   - diuresis as discussed above
   .
   # DMII: Last A1c in [**2-26**] was 7.4%. Will hold outpatient medications
   during this admission.   Sugars poorly controlled while in
patient,
   insulin drip intiated [**11-6**].
   - Continue Insulin drip
 requirements changing
   .
   # Asymmetric LE edema: now appears more symmetric.  Likely secondary to
   volume overload.
   .
   # Hyperlipidemia: Cholesterol not well controlled according to last
   lipid panel measured in [**11-24**]. Chol: 295, LDL: 192, HDL: 79, TG: 120.
   Changed simvastatin 80mg PO daily to atorvastatin 40mg daily due to
   amiodarone presence and its potentiation of hepatotoxicity.
   - Follow LFT
   .
   # Arthritis: Stable though impossible to assess given mental status
   .
   # Gout: Stable.
   - Continue allopurinol 600mg PO daily; monitor renal function.
   .
   # Family Meeting:  Family updated daily.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-1**] 10:15 PM
   Cordis/Introducer - [**2148-11-13**] 07:40 PM
   Multi Lumen - [**2148-11-13**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: